2115-09-19 08:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2115-9-18**] 07:33 PM
 ULTRASOUND - At [**2115-9-18**] 08:12 PM
 EKG - At [**2115-9-18**] 08:13 PM
 NASAL SWAB - At [**2115-9-18**] 08:13 PM
 FEVER - 101.1
F - [**2115-9-18**] 08:12 PM
   Transfused 2 units FFP.
   Continues to be confused.  Wants to go home.  Feels like people are
   trying to harm her.  She is agitated and feels she is being kept a
   hostage, despite emphasizing the reason of her hospitalization.  She
   pulled out foley twice and now requiring wrist restraints.  .
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-9-18**] 09:30 PM
   Vancomycin - [**2115-9-18**] 11:12 PM
   Ceftriaxone - [**2115-9-18**] 11:12 PM
   Acyclovir - [**2115-9-19**] 12:10 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-19**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37
C (98.6
   HR: 92 (89 - 96) bpm
   BP: 121/73(85) {120/68(82) - 143/90(100)} mmHg
   RR: 29 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,755 mL
                                                                  1,359 mL
   PO:
           TF:
   IVF:
                                                                  1,450 mL
                                                                  1,075 mL
   Blood products:
                                                                    305 mL
                                                                    284 mL
   Total out:
                                                                    150 mL
                                                                    450 mL
   Urine:
                                                                    150 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,605 mL
                                                                    909 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///18/
   Physical Examination
   Gen: agitated, emotionally distressed
   CV: RRR, [**1-4**] murmur at RUSB
   Lungs: bilateral rales in lower lung fields
   Abd: non distended non tender.
   Ext: 2+ pedal pulses
   Skin: livedoi retucularis on her lower extremities
   Labs / Radiology
   41 K/uL
   11.2 g/dL
   224 mg/dL
   1.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   41 mg/dL
   107 mEq/L
   137 mEq/L
   34.3 %
   9.7 K/uL
        [image002.jpg]
                            [**2115-9-18**]  07:30 PM
                            [**2115-9-19**]  01:59 AM
                            [**2115-9-19**]  05:50 AM
   WBC
   7.4
   9.7
   Hct
   36.9
   34.3
   Plt
   10
   41
   41
   Cr
   1.7
   1.5
   Glucose
   224
   224
   Other labs: PT / PTT / INR:10.9/20.4/0.9, CK / CKMB / Troponin-T:83//,
   ALT / AST:43/29, Alk Phos / T Bili:188/0.7, Differential-Neuts:91.0 %,
   Band:2.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:990 mg/dL,
   Lactic Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:423 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Imaging: no new imaging
   Microbiology: cultures pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 THROMBOCYTOPENIA, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   #Tachypnea
 Pt requiring with high O2 requirement, poor sats, and
   bibasilar rales.  CXR shows cardiomegally and possible interstitial
   lung disease.  Pulmonary edema also possible.  Unaware of pt
s cardiac
   hx.
   - Repeat CXR
   - Obtain ECHO
   - follow O2 requirement
   - avoid excessive fluids
   - no diuresis at this time given pre renal azotemia
   #. Thrombocytopenia:  TTP and DIC are ruled out.  Pt has an isolated
   thrombocytopenia.  She has no significant splenomegaly on abdominal
   ultrasound.  ITP is also a possibility but usually doesn
t present with
   such low plts.   Viiral etiologies possible
 work up for HIV, HCV,
   HSV, EBV, CMV.  in origin, possibilities include HIV,  HCV, HSV, EBV,
   CMV.  Lastly, this could be a problem of production or destruction
   related to her toxic ingestion.  She is taking an unknown substance
   (tramadol purchased over the internet illegally), perhaps there are
   other toxic substances present.  There are case reports of
   tramadol-associated thrombocytopenia, however, this would be very rare.
   -  Transfuse to maintain HCt > 50, transfuse as needed to prevent risk
   of bleeding
   - Will follow up heme-onc recs in AM, may need a bone marrow biopsy to
   assess for low production
   -Will obtain consent for HIV in AM, and proceed with testing
   -F/u viral serologies, EBV, CMV, HCV
   -Will obtain her bottle of tramadol from [**Hospital3 **] and ask
   toxicology if it is possible to test it for impurities.
   #. Altered mental status: Clinically this sounds like encephalopathy
   given the component of behavioral changes, daytime somnolence, and
   agitation.  In the setting of fevers, delirium and menigo-encephalitis
   are also on the differential.  Also could be related to a toxic
   ingestion-she admits to both tramadol and ativan, but cannot give a
   full history, and her tox screens from urine and blood are both
   negative.
   -Will perform lumbar puncture once plt count is >80, though there are
   no strict guidelines for this
   - For now will cover empirically for meningoencephalitis with
   acyclovir, vancomycin, and ceftriaxone.  This will also cover her UTI.
   - Will obtain substance and attempt to evaluate it with toxicology
   - HIV consent when patient has capacity
   - MRI for possible microvascular hemorrhage
   #. Acute renal failure: In the setting of somnolence (and thus reduced
   access to free water), and infection, most likelly pre-renal failure.
   Had granular casts on OSH sediment, which raises some suspicion for a
   component of ATN.  FeNa here is  0.13%.
   -Continue to bolus fluids to maintain urine output 50-100cc/hr
   -Renally dose meds, follow  daily creatinines
   - Trial of low dose antipsychotic.
   #. Fevers: With concurrent bandemia, and tachycardia.  Given positive
   UA and AMS, possible sources include UTI and meningo-encephalitis.
   -Will follow up urine and blood cultures, when platelet count >80,000,
   will consider LP
   -Continue acyclovir, vancomycin, and CTX
   -Maintain UOP >50-100cc/hr with IVF boluses
   #. Substance abuse: Can obtain a psych and SW consult re: harm to
   herself.  Will re-assess when patient's mental status improves.
   #. Transaminitis: U/s with evidence of fatty liver, also likely an
   acute phase reaction in the setting of infection
   -Can repeat formal RUQ u/s tomorrow
   -Follow LFTs daily
   #. Acidosis: Anion gap is 12  likely lactic acidosis vs. uremia
   -lactate normal
   -other ingestion
   - continue hydration
   #. OSA: Per patient's husband, confirmed at [**Name (NI) 678**] Hospital, CPAP
   being delivered to their home.
   - Can obtain OSH records re: CPAP settings
   #. Hydronephrosis: Found incidentally on renal ultrasound, moderate on
   the left.  Has a history of nephrolithiasis.
   #. Depression: Holding fluoxetine for now.  Psych c/s as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-9-18**] 07:27 PM
   20 Gauge - [**2115-9-18**] 11:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-20 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - intubated for worsening respiratory status and hypoxia
   - Abd u/s: L hydronephrosis, echogenic liver
   - CT head: No acute intracranial process (prelim).
   - ECHO given cardiomegaly and respiratory distress (prelim): EF 10-15%,
   severely globally depressed left ventricular systolic function. Small
   to moderate circumferential pericardial effusion with no evidence of
   tamponade.
   - CT chest/abdomen: Obstructive left ureteral stone measuring 6 x 5 mm
   with consequent left hydroureter and hydronephrosis. Multifocal
   bilateral pulmonary consolidations, concerning for multifocal
   pneumonia. Moderate pericardial effusion. Diffuse fatty infiltration of
   the liver.
   - trop, CK, EKG
   - Cards called: unlikely tamaponade
   - Hypotension to SBP 80s, given 500cc NS, L IJ and A line placed
   - CXR: worsening retrocardiac opacity c/w aspiration
   - TSH
   - heme/onc recs: toxin and poor production
   - tox recs: tramadol can be associated with seizures but unlikely cause
   of thrombocytopenia, continue supportive care
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-9-19**] 10:00 PM
   Ceftriaxone - [**2115-9-19**] 10:00 PM
   Metronidazole - [**2115-9-20**] 12:30 AM
   Acyclovir - [**2115-9-20**] 01:00 AM
   Ciprofloxacin - [**2115-9-20**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.11 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2115-9-19**] 02:51 PM
   Fentanyl - [**2115-9-19**] 02:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-20**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 72 (70 - 98) bpm
   BP: 97/58(70) {88/54(65) - 134/74(89)} mmHg
   RR: 18 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 16 (16 - 303)mmHg
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  3,703 mL
                                                                    558 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,719 mL
                                                                    558 mL
   Blood products:
                                                                    864 mL
   Total out:
                                                                  1,220 mL
                                                                    185 mL
   Urine:
                                                                  1,220 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,483 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.34/39/135/20/-4
   Ve: 13 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   9.9 g/dL
   183 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.3 mEq/L
   40 mg/dL
   107 mEq/L
   137 mEq/L
   31.0 %
   10.8 K/uL
        [image002.jpg]
                            [**2115-9-18**]  07:30 PM
                            [**2115-9-19**]  01:59 AM
                            [**2115-9-19**]  05:50 AM
                            [**2115-9-19**]  12:29 PM
                            [**2115-9-19**]  01:53 PM
                            [**2115-9-19**]  09:36 PM
                            [**2115-9-19**]  09:43 PM
                            [**2115-9-20**]  12:08 AM
                            [**2115-9-20**]  03:17 AM
                            [**2115-9-20**]  04:00 AM
   WBC
   7.4
   9.7
   9.6
   10.8
   Hct
   36.9
   34.3
   30.5
   31.0
   Plt
   10
   41
   41
   55
   58
   42
   Cr
   1.7
   1.5
   1.5
   1.7
   TropT
   0.04
   TCO2
   22
   21
   22
   22
   Glucose
   [**Telephone/Fax (3) 10935**]83
   Other labs: PT / PTT / INR:11.2/23.1/0.9, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:43/29, Alk Phos / T Bili:188/0.7,
   Differential-Neuts:91.0 %, Band:2.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL,
   LDH:504 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR:
   ABD U/S: L hydronephrosis, echogenic liver
   CT HEAD: No acute intracranial process (prelim).
   CT CHEST/ABDOMEN: Obstructive left ureteral stone measuring 6 x 5 mm
   with consequent left hydroureter and hydronephrosis. Multifocal
   bilateral pulmonary consolidations, concerning for multifocal
   pneumonia. Moderate pericardial effusion. Diffuse fatty infiltration of
   the liver.
   ECHO:  The left atrium is moderately dilated. Left ventricular wall
   thicknesses are normal. The left ventricular cavity is moderately
   dilated. There is severe global left ventricular hypokinesis (LVEF =
   [**9-12**] %). The right ventricular cavity is mildly dilated with focal
   hypokinesis of the apical free wall. The aortic valve leaflets (3) are
   mildly thickened but aortic stenosis is not present. The mitral valve
   leaflets are mildly thickened. There is no mitral valve prolapse. Mild
   (1+) mitral regurgitation is seen. The estimated pulmonary artery
   systolic pressure is normal. There is a small to moderate sized
   circumferential pericardial effusion. There are no echocardiographic
   signs of tamponade.
   Microbiology: Urine cx: negative
   Sputum GS: negative, culture pending
   Blood cx: pending
   Flu negative
   Assessment and Plan
   59F with a h/o tramadol abuse and subacute altered mental status with
   thrombocytopenia, now with respiratory failure.
   # Shock: Septic vs cardiogenic.  Pressors started after SPB dropped to
   80s.  CVP 15-16 with mixed venous sat 74  therefore more likely [**12-31**]
   sepsis.  On Levophed.  Source likely lungs also known UTI.  Being
   treated emperically for meningo-encephalitis with
   ceftiaxone/vanc/acyclovir.
   - IVF may be given in small boluses with careful monitoring of
   respiratory status
   - continue antibiotics
   - ID consult
   - MAP goal >65
   - wean pressors as tolerated
   # Respiratory failure: Worsening respiratory status and hypoxia and
   intubated.  Multifocal PNA on CT, abx coverage expanded to cover
   anaerobes and pseudomonas with cipro/flagyl in addition to
   vanc/ceftriaxone being given emperically for meningitis.  Also given
   low EF concern for pulmonary edema.  CXR after intubation yesterday
   concerning for aspiration with increased retrocardiac opacity.
   - continue abx
   - bronch today
   # Cardiac dysfunction/pericardial effusion: decreased systolic function
   with no known history of cardiac disease.  EKG and cardiac enzymes
   negative for actue ischemia.  Moderate effusion without tamponade
   physiology.  CVP not consistant with cardiogenic shock.
   - cards consult
   # Altered Mental Status: Subacute process with acute decline.
   Clinically appears like encephalopathy given the component of
   behavioral changes, daytime somnolence, and agitation.  In the setting
   of fevers, delirium and menigo-encephalitis are also on the
   differential.  Also could be related to a toxic ingestion-she admits to
   both tramadol and ativan, but cannot give a full history, and her tox
   screens from urine and blood are both negative.   CT head negative.
   Consider thyroid dysfunction. Emperic tx for meningoencephalitis with
   acyclovir, vancomycin, and ceftriaxone. TSH 25
   - Lumbar puncture, consider IR given h/o spinal stenosis, give plts to
   count >80
   -  thyroid function tests, cortisol
   - Toxicology c/s: : tramadol can be associated with seizures but
   unlikely cause of thrombocytopenia, continue supportive care
   - HIV consent when patient has capacity
   #. Thrombocytopenia:  Pt has an isolated thrombocytopenia.  Not
   TTP/DIC.  No significant splenomegaly on abdominal ultrasound.  ITP is
   also a possibility but usually doesn
t present with such low plts.
   Viiral etiologies possible
 work up for HIV, HCV, HSV, EBV, CMV.
   Lastly, this could be a problem of production or destruction related to
   her toxic ingestion.  She is taking an unknown substance (tramadol
   purchased over the internet illegally), perhaps there are other toxic
   substances present.  There are case reports of tramadol-associated
   thrombocytopenia, however, this would be very rare.  S/p 4U platelets
   - Transfuse to maintain HCt > 50, transfuse as needed to prevent risk
   of bleeding
   - HIV consent, needs formal ethics c/s if husband
   - F/u viral serologies, EBV, CMV, HCV
   - F/u heme/onc
   #. Acute renal failure: In the setting of somnolence (and thus reduced
   access to free water), and infection, most likelly pre-renal failure.
   Had granular casts on OSH sediment, which raises some suspicion for a
   component of ATN.  FeNa 0.13%. Decreased UOP overnight.
   - Continue to monitor UOP with goal 35-50cc/hr, may carefully give IVF
   - Renally dose meds, follow  daily creatinines
   - Trial of low dose antipsychotic?
   #. Anemia: - hct 37->34->30, stable, no evidence of bleed on CT
   - Continue to monitor daily
   #. Hydronephrosis: Found incidentally on renal ultrasound, moderate on
   the left.  Has a history of nephrolithiasis. Now with obstructing stone
   on L 6x5mm.  Concern for infection behind stone
   -  Urology c/s
   #. Transaminitis: U/s with evidence of fatty liver, also likely an
   acute phase reaction in the setting of infection
   - Follow LFTs daily
   #. Acidosis: no acedemia, bicarb low but lactate normal, tox screen
   negative
   - continue hydration as tolerated and monitor
   #. Substance abuse: SW c/s, psych to see when extubated
   #. Depression: Holding fluoxetine for now.  Psych c/s as above.
   #. FEN: lytes and replete as tolerated,
   #. PPX
   - does she need DVT prophylaxis?  No subq heparin per heme/onc, no
   pneumoboots per her liveta
   - bowel regimen
   # Code: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-9-18**] 07:27 PM
   20 Gauge - [**2115-9-18**] 11:09 PM
   Arterial Line - [**2115-9-19**] 10:26 PM
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-20 10:03:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure, thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Echo with very depressed EF, small pericardial effusion
   Multiple CTs
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-9-19**] 10:00 PM
   Ceftriaxone - [**2115-9-19**] 10:00 PM
   Metronidazole - [**2115-9-20**] 12:30 AM
   Acyclovir - [**2115-9-20**] 01:00 AM
   Ciprofloxacin - [**2115-9-20**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2115-9-19**] 02:51 PM
   Fentanyl - [**2115-9-19**] 02:51 PM
   Other medications:
   acyclovir, vanco, SQI, CTX, CHG, levophed, fentanyl, midaz, flagyl,
   cipro
   Changes to medical and family history: None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-20**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 72 (70 - 98) bpm
   BP: 112/65(80) {88/54(65) - 134/74(89)} mmHg
   RR: 18 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 16 (15 - 303)mmHg
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  3,703 mL
                                                                    686 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,719 mL
                                                                    686 mL
   Blood products:
                                                                    864 mL
   Total out:
                                                                  1,220 mL
                                                                    275 mL
   Urine:
                                                                  1,220 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,483 mL
                                                                    411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.34/39/135/20/-4
   Ve: 10.6 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam only)
   Abdominal: Soft, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm, there is no rash
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.9 g/dL
   42 K/uL
   183 mg/dL
   1.7 mg/dL
   20 mEq/L
   4.3 mEq/L
   40 mg/dL
   107 mEq/L
   137 mEq/L
   31.0 %
   10.8 K/uL
        [image002.jpg]
                            [**2115-9-18**]  07:30 PM
                            [**2115-9-19**]  01:59 AM
                            [**2115-9-19**]  05:50 AM
                            [**2115-9-19**]  12:29 PM
                            [**2115-9-19**]  01:53 PM
                            [**2115-9-19**]  09:36 PM
                            [**2115-9-19**]  09:43 PM
                            [**2115-9-20**]  12:08 AM
                            [**2115-9-20**]  03:17 AM
                            [**2115-9-20**]  04:00 AM
   WBC
   7.4
   9.7
   9.6
   10.8
   Hct
   36.9
   34.3
   30.5
   31.0
   Plt
   10
   41
   41
   55
   58
   42
   Cr
   1.7
   1.5
   1.5
   1.7
   TropT
   0.04
   TCO2
   22
   21
   22
   22
   Glucose
   [**Telephone/Fax (3) 10935**]83
   Other labs: PT / PTT / INR:11.2/23.1/0.9, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:43/29, Alk Phos / T Bili:188/0.7,
   Differential-Neuts:91.0 %, Band:2.0 %, Lymph:6.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL,
   LDH:504 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   59-year-old woman who was found down with altered mental status,
   admitted to [**Hospital1 608**], and transferred here for further evaluation with
   progressively declining status.  Major current issues include
   Shock
          Likely mixed picture
          Treat as if for sepsis (see below)
          Goal-directed hemodynamic therapy as needed
          Get full TFTs including free T4 to exclude myxedema
          Check random and [**Last Name (un) 402**] stim to exclude adrenal insufficiency
          CVP tracing and minimal pulse pressure variation argue
   against tamponade as major etiology
   Thrombocytopenia
          Appreciate hematology
s help
          Hold on heparin
          Etiology unclear at present, but TTP/HUS felt unlikely
   Sepsis/septic shock (possible/probable)
          Potential sources include pneumonia, kidney, viral
          Meningitis or encephalitis is also in DDx
          Follow cultures and consider bronchoscopy for samples
          Continue present antibiotics, follow cultures, and formally
   consult infectious disease.
          HIV testing (ask for assent of HCP and consult ethics, since
   patient unable to consent)
          Await ID
s consultation: differential here seems very broad.
   Renal failure (acute vs. chronic)
          [**Month (only) 51**] need to consider relieving hydroureter; in particular,
   this may be a site of infection
          Consult urology for recommendations
   Pericardial effusion
          Etiology uncertain
          Seems unlikely to have tamponade physiology at present
   Congestive heart failure, systolic, severe (unclear if acute or
   chronic)
          Etiology uncertain
          Cardiology consultation today
   Transaminitis and
fatty liver
 by CT
          Follow clinically
   A unifying diagnosis is not immediately apparent.  Will ask ID for
   thoughts (e.g. transaminitis, thrombocytopenia, etc. could raise the
   possibility of babesiosis though unusual seasonal timing and doesn
   seem to fit complete picture).  Viral and other unusual infections are
   also in DDx.  Will also discuss role of LP with ID team, since
   higher-than-usual risk given thrombocytopenia, known spine disease,
   etc.
   ICU Care
   Nutrition:
   Comments: start TF after LP if needed
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-9-18**] 07:27 PM
   20 Gauge - [**2115-9-18**] 11:09 PM
   Arterial Line - [**2115-9-19**] 10:26 PM
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Prophylaxis:
   DVT: Boots(holding on SQH given thrombocytopenia)
   Stress ulcer: add H2B today (vs. PPI; will d/w heme)
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 min
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Eventful day.
          Perc neph drained pus.
          LP shows lots of red cells, small number of white cells but
   VERY left shifted with polys, bands, metas, and myelos.
          After trip to IR, returned with much worse hypoxemia.  We
   have converted to ARDSnet ventilation and attempted deep sedation but
   hypotension worsened.  [**Month (only) 51**] require pharmacologic paralysis tonight, and
   possibly esophageal manometry.
          Free T4 is very low, and TSH is very high.  Given history,
   this seems to be severe untreated hypothyroidism.  Will check [**Last Name (un) 402**]
   stim, but treat with steroids and then replete thyroxine.  Consult
   endocrine.
          Awaiting cardiology recs.
          Discussed case in detail with ID attending and fellow.  We
   will treat with vanco, [**Last Name (un) 614**], quinolone, acyclovir, and oseltamivir.
   Serologies as recommended.
   Unifying diagnosis remains uncertain.  Will follow up current studies
   and may need to pursue rheumatologic evaluation.
   Discussed in detail with family (other than husband, who went home but
   asked these family members to get updates).  Reviewed that she is
   critically ill and may die, though we will know more in next few days.
   All questions answered.
   65 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2115-9-20**] 21:31 ------

2115-09-21 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -left percutaneous nephrostomy tube placed for decompression of left
   kidney given hydronephrosis; a pinkish fluid drained and sent for
   culture
   -cardiology consulted but no note
   -2 U of platelets given in AM for LP - IR guided LP performed: CSF sent
   for cultures, gram stain, total protein, as well as viral cultures,
   West [**Doctor First Name **]
   -ID consulted given MS changes and persistent fevers; multiple
   serologies ordered including adenovirus, enterovirus, LCMV, parvovirus,
   hep A, B, C, ehrlichia, babesia, lyme (esp given LFT elevations,
   thrombocytopenia)
   -empiric tx for meningitis and PNA: vanc + meropenem + levofloxacin +
   oseltamavir + acyclovir
   -respiratory distress worsened; placed on ARDS low volume protocol; had
   continued respiratory and metabolic acidosis, progressively increased
   respiratory rate; slow taper of FiO2 and PEEP per ARDSnet
   -echo showed pericardial effusion
   -T4 < 1.0, T3 < 20, free T4 0.10
   -cortisol stim test: results were AM cortisol: 35, then after stim 60,
   then 180
   -AM cortisol ~ 35 (adequate)
   -stress dose steroids started + thyroid replacement therapy
   -ANCA negative, [**Doctor First Name **] -, CRP elevated, ESR > 100, C3 C4 nl
   -UOP dropped off in PM, got fluid boluses, UOP in AM was . . .
   -influenza negative, Ucxs negative,
   -started on insulin drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-9-20**] 07:30 AM
   Azithromycin - [**2115-9-20**] 12:00 PM
   Ciprofloxacin - [**2115-9-20**] 02:00 PM
   Cefipime - [**2115-9-20**] 08:00 PM
   Vancomycin - [**2115-9-20**] 08:43 PM
   Levofloxacin - [**2115-9-20**] 11:19 PM
   Metronidazole - [**2115-9-21**] 12:38 AM
   Acyclovir - [**2115-9-21**] 12:38 AM
   Meropenem - [**2115-9-21**] 04:30 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Cisatracurium - 0.16 mg/Kg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-21**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.5
C (97.7
   HR: 65 (64 - 102) bpm
   BP: 97/59(71) {88/56(69) - 132/97(101)} mmHg
   RR: 34 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (14 - 18)mmHg
   Total In:
                                                                  4,534 mL
                                                                  2,032 mL
   PO:
   TF:
   IVF:
                                                                  3,971 mL
                                                                  1,972 mL
   Blood products:
                                                                    443 mL
   Total out:
                                                                    697 mL
                                                                    427 mL
   Urine:
                                                                    697 mL
                                                                    127 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  3,837 mL
                                                                  1,605 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 500) mL
   RR (Set): 35
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: Neuromusc Block
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 34 cmH2O/mL
   SpO2: 100%
   ABG: 7.30/37/106/19/-7
   Ve: 11.9 L/min
   PaO2 / FiO2: 177
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   40 K/uL
   9.8 g/dL
   237 mg/dL
   2.5 mg/dL
   19 mEq/L
   3.5 mEq/L
   50 mg/dL
   105 mEq/L
   135 mEq/L
   30.3 %
   25.0 K/uL
        [image002.jpg]
                            [**2115-9-20**]  11:30 AM
                            [**2115-9-20**]  11:53 AM
                            [**2115-9-20**]  05:50 PM
                            [**2115-9-20**]  08:24 PM
                            [**2115-9-20**]  09:31 PM
                            [**2115-9-20**]  10:13 PM
                            [**2115-9-20**]  11:38 PM
                            [**2115-9-21**]  02:17 AM
                            [**2115-9-21**]  04:15 AM
                            [**2115-9-21**]  04:16 AM
   WBC
   34.2
   25.0
   Hct
   48
   33.1
   30.3
   Plt
   107
   64
   40
   Cr
   2.4
   2.5
   TCO2
   24
   18
   22
   22
   22
   20
   19
   Glucose
   [**Telephone/Fax (3) 10980**]37
   Other labs: PT / PTT / INR:12.1/25.2/1.0, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:48/44, Alk Phos / T Bili:216/1.0,
   Differential-Neuts:93.8 %, Band:2.0 %, Lymph:5.0 %, Mono:0.9 %, Eos:0.1
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL,
   LDH:275 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: 7.30  37   106
   WBC 1   RBCs  404
   TP  66   glucose  122   LDH  19
   T4
   T3
   free T4 .10
   TSH 19
   Imaging: Torso CT
   1. Obstructive left ureteral stone measuring 6 x 5 mm with consequent
   left
   hydroureter and hydronephrosis.
   2. Multifocal bilateral pulmonary consolidations, concerning for
   multifocal
   pneumonia.
   3. Moderate pericardial effusion.
   4. Diffuse fatty infiltration of the liver.
   Head CT
   -no acute process
   Microbiology: legionella negative
   cryptococcus negative
   urine cxs, blood cxs pending or negative
   sputum cxs negative
   Assessment and Plan
   Assessment and Plan
   59F with a h/o tramadol abuse and subacute altered mental status with
   thrombocytopenia, now with respiratory failure.
   # Shock:  Likely septic given high mixed venous O2 sat.  On Levophed.
   Source unclear but has constellation of sxs that could be secondary to
   underlying infectious syndrome.  Most likely sites of infection include
   pneumonia (given multifocal consolidations on chest x-ray), carditis
   (given pericardial effusion), meningitis (given acute mental status
   change), upper or lower urinary tract infection (given purulent fluid
   on drainage in left nephrostomy tube), or bacteremia.
   -continue levophed w/ MAP goal > 65 and wean levophed as tolerated
   -Currently on vancomycin and meropenem and levoquin for coverage of PNA
   (day 4 of vanc, day 1 of meropenem)
   -For possibility of meningitis: on Vanc + [**Last Name (un) 614**] + acyclovir
   -For possibiliity of influenza: on oseltamavir, however DFAs negative;
   touch base w/ ID re: d/c oseltamavir.
   -F/u urine cultures from nephrostomy tube, follow up multiple cxs
   (babesia, ehrilichia, lyme: possibility given LFT elevations,
   thrombocytopenia)
   -Need to obtain HIV consent today from proxy
   -F/u ID recs (including results from multiple cultures and serologies
   that were sent out)
   .
   # Respiratory failure: Worsening respiratory status and hypoxia and
   intubated.  Cause of respiratory failure is likely multifactorial
   including evidence for multifocal PNA on CT, volume overload in setting
   of low EF, likely ARDS given acuity of distress and development of
   bilateral infiltrates.
   -On ARDS low ventilation protocol
   -FiO2 currently 60%, PEEP has been weaned down to 12
   -Was hypercarbic and have increased respiratory rate to 35 to resolve
   respiratory acidosis; has improved from 50 to 37; would try to reduce
   minute ventilation given steady improvement in CO2.
   -Continue to decrease FiO2 for goal FiO2 of 50% and goal PEEP of 10
   today.
   -Continue tx of pneumonia
   -If possible, can try bronch today to obtain BAL
   .
   # Cardiomyopathy:  Ejection fraction is 10% and LV and RV are both
   moderately dilated, suggestive of a dilated cardiomyopathy.  Possible
   causes of dilated cardiomyopathy include infectious causes (HIV,
   [**Location (un) **]) versus alcohol abuse versus autoimmune syndromes (lupus vs
   celiac disease), versus nutritional deficiences (thiamine, selenium,
   L-carnitine) versus hypothyroidism. Ischemia can also cause dilated
   cardiomyopathy.
   -Pt has possible prior hx of hypothyroidism per husband but has not
   visited doctor in 5 years so may have had untx hypothyroidism; TSH is
   25 and free T3, T4 low.   Started thyroid replacement yesterday;
   continue thyroid replacement daily, touch base w/ endocrine.
   -obtain HIV test today
   -send out TTG Ab to test for celiac
   -F/u thiamine, obtain selenium and L-carnitine levels
   .
   #Pericardial Effusion: Most likely causes is acute infectious process
   versus thyroid disease. On echo, does not seem to be causing any
   tamponade physiology.
   -Treat underlying thyroid disease as above
   -F/u cultures
   -F/u cardiology consult
   .
   # Altered Mental Status: Subacute process with acute decline.
   Differential includes endocrinopathy related mental status changes
   (hypothyroidism, adrenal insufficiency), infection
   (meningitis/encephalitis), versus toxic ingestion.  TTP under
   consideration given thrombocytopenia but less likely given absence of
   schistocytes.  Acute vascular disease seems less likely given CT head
   negative.
   -Continue thyroid replacement
   -R/o for adrenal insufficiency given AM cortisol > 20 and positive
   response to c-stim test
   -Continue empiric tx for meningoencephalitis w/ abx regimen per above
   -F/u CSF cultures and serologies
   -Hem-onc thinks TTP unlikely given absense of schistocytes
   .
   #. Thrombocytopenia:  Pt has an isolated thrombocytopenia.  Most likely
   causes are ITP in setting of viral infection.  Possibly related to
   toxin ingestion.  TTP/DIC unlikely.   Following platelet transfusion,
   rose to 110, but over 24 hrs have decreased to 40 over 24 hrs.  More
   suggestive of destruction rather than underproduction given acuity of
   drop and without depression of other cell lines.
   -Platelets [**Hospital1 7**]
   -Transfuse if < 10 or if active signs of bleeding
   - F/u serologies
   -F/u hem/onc recs
   .
   #. Acute renal failure:  Likely has an intermediate syndrome between
   pre-renal and ATN:  has granular casts on sediment however FeNA is .12%
   and Urine sodium is low.  Continues to be oliguric.
   -Cautious fluid boluses 500 ccs now:  follow UOP w/ goal of 35-50 ccs
   - Renally dose meds, follow  daily creatinines
   .
   #. Anemia: - hct 48->34->30, stable, no overt evidence of bleed.  Drop
   likely secondary to fluids (and d/c in Hct?)
   -Check HCT this afternoon
   -transfuse if HCT falls < 25
   -maintain active type and screen
   .
   #. Hydronephrosis: Found incidentally on renal ultrasound, moderate on
   the left.  Has a history of nephrolithiasis. Now with obstructing stone
   on L 6x5mm.  Nephrostomy tube placed and pustulant fluid drained.
   -F/u cultures from fluid
   -CT did not show any local abscess
   .
   #. Acidosis:  Has respiratory acidosis on top of metabolic acidosis.
   Metabolic acidosis is non-gap and most likely secondary to renal
   failure.
   -For respiratory acidosis, keep resp rate elevated to remove CO2
   -Attempt continued fluid boluses for renal failure
   .
   #. Substance abuse: SW c/s, psych to see when extubated
   .
   #. Depression: Holding fluoxetine for now.  Psych c/s as above.
   .
   #. FEN: lytes and replete as tolerated,
   .
   #. PPX
   -Pneumoboots
   - bowel regimen
   # Code: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-20**] 05:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-21 09:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2115-9-20**] 01:00 PM
 ARTERIAL LINE - START [**2115-9-20**] 05:11 PM
 BLOOD CULTURED - At [**2115-9-20**] 09:00 PM
 URINE CULTURE - At [**2115-9-20**] 10:47 PM
 FEVER - 102.4
F - [**2115-9-20**] 08:00 PM
LP and nephrostomy tube as noted
plt transfusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-9-20**] 07:30 AM
   Azithromycin - [**2115-9-20**] 12:00 PM
   Ciprofloxacin - [**2115-9-20**] 02:00 PM
   Cefipime - [**2115-9-20**] 08:00 PM
   Levofloxacin - [**2115-9-20**] 11:19 PM
   Metronidazole - [**2115-9-21**] 12:38 AM
   Acyclovir - [**2115-9-21**] 12:38 AM
   Meropenem - [**2115-9-21**] 04:30 AM
   Vancomycin - [**2115-9-21**] 08:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Insulin - Regular - 3 units/hour
   Cisatracurium - 0.16 mg/Kg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley, nephrostomy tube
   Flowsheet Data as of  [**2115-9-21**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.2
C (97.1
   HR: 60 (60 - 102) bpm
   BP: 86/54(63) {86/54(63) - 132/97(101)} mmHg
   RR: 28 (0 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 105 kg
   CVP: 344 (10 - 344)mmHg
   Total In:
                                                                  4,534 mL
                                                                  3,534 mL
   PO:
   TF:
   IVF:
                                                                  3,971 mL
                                                                  3,474 mL
   Blood products:
                                                                    443 mL
   Total out:
                                                                    697 mL
                                                                    662 mL
   Urine:
                                                                    697 mL
                                                                    362 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  3,837 mL
                                                                  2,872 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (340 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 35 cmH2O
   Plateau: 24 cmH2O
   Compliance: 38.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.30/37/106/19/-7
   Ve: 12.6 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   40 K/uL
   237 mg/dL
   2.5 mg/dL
   19 mEq/L
   3.5 mEq/L
   50 mg/dL
   105 mEq/L
   135 mEq/L
   30.3 %
   25.0 K/uL
        [image002.jpg]
                            [**2115-9-20**]  11:30 AM
                            [**2115-9-20**]  11:53 AM
                            [**2115-9-20**]  05:50 PM
                            [**2115-9-20**]  08:24 PM
                            [**2115-9-20**]  09:31 PM
                            [**2115-9-20**]  10:13 PM
                            [**2115-9-20**]  11:38 PM
                            [**2115-9-21**]  02:17 AM
                            [**2115-9-21**]  04:15 AM
                            [**2115-9-21**]  04:16 AM
   WBC
   34.2
   25.0
   Hct
   48
   33.1
   30.3
   Plt
   107
   64
   40
   Cr
   2.4
   2.5
   TCO2
   24
   18
   22
   22
   22
   20
   19
   Glucose
   [**Telephone/Fax (3) 10980**]37
   Other labs: PT / PTT / INR:12.1/25.2/1.0, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:48/44, Alk Phos / T Bili:216/1.0,
   Differential-Neuts:93.8 %, Band:2.0 %, Lymph:5.0 %, Mono:0.9 %, Eos:0.1
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL,
   LDH:275 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   59F found down with altered mental status, tramadol overdose
   Shock
   - presumed septic etiology
   -vanc, [**Last Name (un) 614**],
   Resp failure
   -decomp around moving/positioning for procedures.  Recruitment maneuver
   performed with clear improvement per report
   -ARDSnet ventilation
   -improvement overnight
   -FiO2 .5, lungs reasonably compliant
   -Wean PEEP, FiO2 as tol.
   Cardiomyopathy
   Acute Renal Failure
   -hydronephrosis
   -s/p nephrostomy tube placement - pus
          Check random and [**Last Name (un) 402**] stim to exclude adrenal insufficiency
          CVP tracing and minimal pulse pressure variation argue
   against tamponade as major etiology
   Thrombocytopenia
          Appreciate hematology
s help
          Hold on heparin
          Etiology unclear at present, but TTP/HUS felt unlikely
   Sepsis/septic shock (possible/probable)
          Potential sources include pneumonia, kidney, viral
          Meningitis or encephalitis is also in DDx
          Follow cultures and consider bronchoscopy for samples
          Continue present antibiotics, follow cultures, and formally
   consult infectious disease.
          HIV testing (ask for assent of HCP and consult ethics, since
   patient unable to consent)
          Await ID
s consultation: differential here seems very broad.
   Renal failure (acute vs. chronic)
          [**Month (only) 51**] need to consider relieving hydroureter; in particular,
   this may be a site of infection
          Consult urology for recommendations
   Pericardial effusion
          Etiology uncertain
          Seems unlikely to have tamponade physiology at present
   Congestive heart failure, systolic, severe (unclear if acute or
   chronic)
          Etiology uncertain
          Cardiology consultation today
    Transaminitis and
fatty liver
 by CT
          Follow clinically
   A unifying diagnosis is not immediately apparent.  Will ask ID for
   thoughts (e.g. transaminitis, thrombocytopenia, etc. could raise the
   possibility of babesiosis though unusual seasonal timing and doesn
   seem to fit complete picture).  Viral and other unusual infections are
   also in DDx.  Will also discuss role of LP with ID team, since
   higher-than-usual risk given thrombocytopenia, known spine disease,
   etc.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-20**] 05:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2115-09-22 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Endo: start 25 mcg Levothyroxine for sublicnical to mild
   hypothyroidism, check TPO
   - Heme-Onc: no new recs
   - ID: get BAL to definitively diagnose influenza.  Continue renally
   dosing medications.  Continue double coverage for GNR.
   - Culture from nephrostomy positive for GNR
   - Called pharmacy to confirm dosage of oseltamavir
   - Continue aggressive hydration to prevent acyclovir toxicity
   - unable to reach husband for physical consent of HIV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-9-20**] 07:30 AM
   Azithromycin - [**2115-9-20**] 12:00 PM
   Ciprofloxacin - [**2115-9-20**] 02:00 PM
   Cefipime - [**2115-9-20**] 08:00 PM
   Levofloxacin - [**2115-9-20**] 11:19 PM
   Metronidazole - [**2115-9-21**] 12:38 AM
   Vancomycin - [**2115-9-21**] 08:00 AM
   Acyclovir - [**2115-9-21**] 12:15 PM
   Meropenem - [**2115-9-21**] 08:41 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 175 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-22**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 61 (58 - 66) bpm
   BP: 95/52(66) {77/50(55) - 126/73(90)} mmHg
   RR: 28 (0 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 105 kg
    CVP: 14 (7 - 344)mmHg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  7,084 mL
                                                                    641 mL
   PO:
   TF:
                                                                     30 mL
                                                                    136 mL
   IVF:
                                                                  6,804 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  1,147 mL
                                                                    350 mL
   Urine:
                                                                    847 mL
                                                                    350 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  5,937 mL
                                                                    291 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 41 cmH2O
   Plateau: 26 cmH2O
   Compliance: 29.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.34/29/99.[**Numeric Identifier 126**]/17/-8
   Ve: 12.2 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Cardiovascular: Intubated, sedated
   distant heart sounds
   mechanical ventilation
   obses, ND, ABS
   1+ edema
   unresponsive to sternal rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   29 K/uL
   10.2 g/dL
   111 mg/dL
   3.1 mg/dL
   17 mEq/L
   3.7 mEq/L
   65 mg/dL
   109 mEq/L
   138 mEq/L
   31.1 %
   26.0 K/uL
        [image002.jpg]
                            [**2115-9-21**]  04:15 AM
                            [**2115-9-21**]  04:16 AM
                            [**2115-9-21**]  09:13 AM
                            [**2115-9-21**]  12:58 PM
                            [**2115-9-21**]  03:56 PM
                            [**2115-9-21**]  04:14 PM
                            [**2115-9-21**]  10:58 PM
                            [**2115-9-22**]  02:09 AM
                            [**2115-9-22**]  04:07 AM
                            [**2115-9-22**]  04:41 AM
   WBC
   25.0
   22.7
   26.0
   Hct
   30.3
   29.0
   31.1
   Plt
   40
   25
   29
   Cr
   2.5
   2.7
   3.1
   TCO2
   19
   17
   17
   17
   17
   15
   16
   Glucose
   237
   119
   110
   111
   Other labs: PT / PTT / INR:12.8/24.8/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:42/32, Alk Phos / T Bili:189/0.7,
   Differential-Neuts:90.4 %, Band:0.0 %, Lymph:8.1 %, Mono:1.0 %, Eos:0.1
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL,
   LDH:292 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR - unchanged from prior,  consistent wtih multilobar PNA
   Microbiology: Nephrostomy tube - GNR
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 THROMBOCYTOPENIA, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   59F with a h/o tramadol abuse and subacute altered mental status with
   thrombocytopenia, now with respiratory failure.
   # Shock:  Likely septic given high mixed venous O2 sat.  On Levophed.
   Source unclear but has constellation of sxs that could be secondary to
   underlying infectious syndrome.  Most likely sites of infection include
   upper UTI given culture positive purulent drainage with GNR.  She
   presented to [**Hospital1 19**] with GNR suggesting she might have been paritally
   treated and therefore not present with postive bacteremia.   This may
   be complicated by bacterial or viral  pneumonia (given multifocal
   consolidations on chest x-ray), carditis (given pericardial effusion),
   meningitis (given acute mental status change).
   -continue levophed w/ MAP goal > 65 and wean levophed as tolerated
   - call [**Hospital1 10990**] regarding blood culture data/growth, Urine
   culture growth.  Tx of GNR with Meropenem and Levoquin.
   -Currently on vancomycin and meropenem and levoquin for coverage of PNA
   (day 5 of vanc/levo, day 3 of meropenem)
   -For possibility of meningitis: on Vanc + [**Last Name (un) 614**] + acyclovir
   -For possibiliity of influenza: on oseltamavir, ID does not want to r/o
   influenza until negative BAL
   -F/u urine cultures from nephrostomy tube, follow up multiple cxs
   -Need to obtain HIV consent today from proxy, unable to reach him
   yesterday
   -F/u ID recs (including results from multiple cultures and serologies
   that were sent out)
   # Respiratory failure:  Cause of respiratory failure is likely
   multifactorial including evidence for multifocal PNA on CT, volume
   overload in setting of low EF, ARDS determined to be unlikey given she
   is oxygenating well.
   - off ARDS protocol ventilation, but give consideration to avoid high
   PIP and plateau pressures
   - wean as tolerated
   - Continue tx of pneumonia
   - If possible, can try bronch today to obtain BAL
   # Cardiomyopathy:  Ejection fraction is 10% and LV and RV are both
   moderately dilated, suggestive of a dilated cardiomyopathy.  Possible
   causes of dilated cardiomyopathy include infectious causes (HIV,
   [**Location (un) **]) versus alcohol abuse versus autoimmune syndromes (lupus vs
   celiac disease), versus nutritional deficiences (thiamine, selenium,
   L-carnitine) versus hypothyroidism. Ischemia unlikely given age and
   lack of cardiac hx.
   - Degree of her hypothyroidism is not significant enough to cause this
   level myopathy.  Pt started thyroid replacement per endo recs.
   - obtain HIV test today
   - F/u thiamine levels
   - cath is indicated
   #Pericardial Effusion: Most likely causes is acute infectious process
   versus thyroid disease. On echo, does not seem to be causing any
   tamponade physiology.
   -Treat underlying thyroid disease as above
   -F/u cultures
   -F/u cardiology consult .
   - f/u CVP
   # Altered Mental Status: Subacute process with acute decline.  Most
   likely [**12-31**] to infection (meningitis/encephalitis) versus toxic
   ingestion.   Acute vascular disease seems less likely given CT head
   negative.
   -Continue thyroid replacement
   -Continue empiric tx for meningoencephalitis w/ abx regimen per above
   -F/u CSF cultures and serologies
   #. Thrombocytopenia:  Pt has an isolated thrombocytopenia.  Most likely
   causes are ITP in setting of viral infection.  Possibly related to
   toxin ingestion.  TTP/DIC unlikely.   Thryombocytopenia more
   suggestive of destruction rather than underproduction given acuity of
   drop and without depression of other cell lines.
   - Platelets [**Hospital1 7**]
   - Transfuse if < 10 or if active signs of bleeding
   - F/u serologies
   - F/u hem/onc recs
   #. Acute renal failure:  Likely has an intermediate syndrome between
   pre-renal and ATN:  has granular casts on sediment however FeNA is .12%
   and Urine sodium is low.  Continues to be oliguric.
   - Cautious fluid boluses
   - Renally dose meds, follow  daily creatinines
   #. Anemia: - hct 48->34->30 ->31, stable, no overt evidence of bleed.
   Drop likely secondary to fluids and or beginning of drop in all cell
   lines (although WBC still 26)
   -Check HCT this afternoon
   -transfuse if HCT falls < 25
   -maintain active type and screen
   #. Hydronephrosis: Found incidentally on renal ultrasound, moderate on
   the left.  Has a history of nephrolithiasis. Now with obstructing stone
   on L 6x5mm.  Nephrostomy tube placed and pustulant fluid drained
   growing GNR.
   -F/u cultures from fluid
   -CT did not show any local abscess
   #Hypothyroidism - continue levothroxine, endo following
   #. Substance abuse: SW c/s, psych to see when extubated
   #. Depression: Holding fluoxetine for now.  Psych c/s as above.
   #. FEN: lytes and replete as tolerated,
   #. PPX
   -Pneumoboots
   - bowel regimen
   # Code: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-9-21**] 09:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-20**] 05:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-22 09:10:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -creatinine trending up
   -Remains tenuous hemodynamically cont require pressors
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-9-20**] 07:30 AM
   Azithromycin - [**2115-9-20**] 12:00 PM
   Ciprofloxacin - [**2115-9-20**] 02:00 PM
   Cefipime - [**2115-9-20**] 08:00 PM
   Levofloxacin - [**2115-9-20**] 11:19 PM
   Metronidazole - [**2115-9-21**] 12:38 AM
   Vancomycin - [**2115-9-21**] 08:00 AM
   Acyclovir - [**2115-9-21**] 12:15 PM
   Meropenem - [**2115-9-21**] 08:41 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 175 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-22**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 59 (58 - 66) bpm
   BP: 95/53(66) {77/45(55) - 126/73(90)} mmHg
   RR: 28 (0 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 105 kg
   CVP: 8 (7 - 17)mmHg
   Mixed Venous O2% Sat: 74 - 74
                                Total In:
                                                                  7,084 mL
                                                                    775 mL
   PO:
                                TF:
                                                                     30 mL
                                                                    169 mL
   IVF:
                                                                  6,804 mL
                                                                    536 mL
   Blood products:
   Total out:
                                                                  1,147 mL
                                                                    350 mL
   Urine:
                                                                    847 mL
                                                                    350 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  5,937 mL
                                                                    425 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 41 cmH2O
   Plateau: 26 cmH2O
   Compliance: 29.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.34/29/99.[**Numeric Identifier 126**]/17/-8
   Ve: 12.2 L/min
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: Overweight / Obese, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   29 K/uL
   148
   3.1 mg/dL
   17 mEq/L
   3.7 mEq/L
   65 mg/dL
   109 mEq/L
   138 mEq/L
   31.1 %
   26.0 K/uL
        [image002.jpg]
                            [**2115-9-21**]  04:16 AM
                            [**2115-9-21**]  09:13 AM
                            [**2115-9-21**]  12:58 PM
                            [**2115-9-21**]  03:56 PM
                            [**2115-9-21**]  04:14 PM
                            [**2115-9-21**]  10:58 PM
                            [**2115-9-22**]  02:09 AM
                            [**2115-9-22**]  04:07 AM
                            [**2115-9-22**]  04:41 AM
                            [**2115-9-22**]  08:00 AM
   WBC
   22.7
   26.0
   Hct
   29.0
   31.1
   Plt
   25
   29
   Cr
   2.7
   3.1
   TCO2
   19
   17
   17
   17
   17
   15
   16
   Glucose
   119
   110
   111
   148
   Other labs: PT / PTT / INR:12.8/24.8/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:42/32, Alk Phos / T Bili:189/0.7,
   Differential-Neuts:90.4 %, Band:0.0 %, Lymph:8.1 %, Mono:1.0 %, Eos:0.1
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL,
   LDH:292 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   59F found down with altered mental status, tramadol overdose
   Sepsis/Shock
   - presumed septic etiology
 multiple potential sources including lung,
   kidney.
           -Bact meningitis less likely given LP results
   - covering empirically with vanc, [**Last Name (un) 614**], levo for PNA
   - ACV empirically for HSV
   -Tamiflu empirically for influenza
   -considering FOB/BAL for sampling
 however dev worsening hypotension
   during rounds.  Also on 12 of PEEP and required recruitment maneuver
   Friday so some concern about potential for derecruitment during FOB.
   Her Pplat of 26 and Compliance of ~30 mitigate this concern to a
   certain degree.  However, because of her hemodynamic instability, we
   are opting to wait on FOB/BAL and have team reconsider tomorrow.
   Resp failure
   -oxygenation relatively stable
   -Lungs reasonably compliant (~30)
   -Still requiring moderate PEEP
   Cardiomyopathy
   -newly dx dilated CM
   -EF 10%
   -? suppressed contractility related to sepsis though dilated nature
   concerning that might be unrelated process.
   -cardiology consulted
   Pericardial effusion
   -no evidence of tamponade physiology at present.
   -etiology unclear
   Acute Renal Failure
   -creatinine up 2.7->3.1
   -check urine lytes, examine sediment
   -poor forward flow vs. ATN
   -renal consult
   Hydronephrosis
   -s/p nephrostomy tube
   -draining clear urine
   Thrombocytopenia
   -Etiology remains unclear
   - heme following
   Substance abuse
   -Tramadol, benzos
   For remainder of plan, please see resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2115-9-21**] 09:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-20**] 05:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2115-09-23 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - switched to dobutamine/levo (initally neo)
   - no bronch today given tenuous hemodynamic status
   - pressors changed to neno/dobutamine
   - ID recs: mycolitic blood cultures, enteroviral PCR in CSF,
   leptospinal antibodies, renal dosage
   - renal c/s: no CVVH today, rec IR to place line tomorrow for CVVH if
   renal function continues to decline
   - HIV consent obtained, HIV pending
   - Endocrine recs: levothyroxine 50 PO
   - started an H2 blocker
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2115-9-20**] 12:00 PM
   Ciprofloxacin - [**2115-9-20**] 02:00 PM
   Cefipime - [**2115-9-20**] 08:00 PM
   Metronidazole - [**2115-9-21**] 12:38 AM
   Vancomycin - [**2115-9-21**] 08:00 AM
   Acyclovir - [**2115-9-22**] 02:00 PM
   Meropenem - [**2115-9-22**] 08:24 PM
   Levofloxacin - [**2115-9-22**] 09:56 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 4 units/hour
   Fentanyl - 175.1 mcg/hour
   Dobutamine - 7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-23**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 83 (57 - 89) bpm
   BP: 97/51(64) {67/40(49) - 165/76(104)} mmHg
   RR: 28 (0 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 105 kg
    CVP: 13 (4 - 15)mmHg
   Total In:
                                                                  3,078 mL
                                                                    896 mL
   PO:
   TF:
                                                                    356 mL
                                                                     76 mL
   IVF:
                                                                  2,532 mL
                                                                    820 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    460 mL
   Urine:
                                                                    970 mL
                                                                    460 mL
   NG:
                                                                    220 mL
   Stool:
   Drains:
   Balance:
                                                                  1,888 mL
                                                                    436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 95%
   ABG: 7.33/30/106/16/-8
   Ve: 11.5 L/min
   PaO2 / FiO2: 177
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   63 K/uL
   9.7 g/dL
   135
   3.5 mg/dL
   16 mEq/L
   3.3 mEq/L
   77 mg/dL
   106 mEq/L
   135 mEq/L
   27.4 %
   15.6 K/uL
        [image002.jpg]
                            [**2115-9-22**]  08:00 PM
                            [**2115-9-22**]  10:00 PM
                            [**2115-9-23**]  12:00 AM
                            [**2115-9-23**]  01:00 AM
                            [**2115-9-23**]  02:00 AM
                            [**2115-9-23**]  03:00 AM
                            [**2115-9-23**]  03:38 AM
                            [**2115-9-23**]  03:58 AM
                            [**2115-9-23**]  05:00 AM
                            [**2115-9-23**]  06:00 AM
   WBC
   15.6
   Hct
   27.4
   Plt
   63
   Cr
   3.5
   TCO2
   17
   Glucose
   155
   173
   209
   190
   185
   171
   126
   124
   143
   135
   Other labs: PT / PTT / INR:12.3/24.3/1.0, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:42/32, Alk Phos / T Bili:189/0.7,
   Differential-Neuts:90.4 %, Band:0.0 %, Lymph:8.1 %, Mono:1.0 %, Eos:0.1
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL,
   LDH:292 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Microbiology: - Positive results: urine with GNR x2, TSH high, free T4
   low, ESR/CRP high
   - Negative results: CSF cryptococcal antigen, legionella, influenza,
   CMV IgM (CMV IgG slightly positive but probably represents previous
   infeciton), urine, [**Doctor First Name **], ANCA, C3/C4
   - Pending results: HIV, CSF fungal and viral cultures, blood, CSF HIV
   viral load, HBV, HCV, Lyme, CMV viral load, blood fungal/afb, anti-TPO,
   hepatitis labs, CSF west [**Doctor First Name **] and herpes
   Assessment and Plan
   59F with a h/o tramadol abuse and subacute altered mental status with
   thrombocytopenia, now with respiratory failure and pyelonephritis from
   obstructed stone as well as cardimyopathy and decreased EF with
   pericardial effusion.
   # Shock:  Likely septic vs cardiogenic.  On dobutamine/levo and
   maintained MAPs.  High mixed venous O2 sat.  Source unclear but has
   constellation of sxs that could be secondary to underlying infectious
   syndrome.  Most likely sites is urine given obstructive stone and
   purulent drainage from L nephrostomy tube with GNR.  She presented to
   [**Hospital1 19**] with GNR suggesting she might have been paritally treated and
   therefore not present with postive bacteremia.   This may be
   complicated by bacterial or viral  pneumonia (given multifocal
   consolidations on chest x-ray), carditis (given pericardial effusion),
   meningitis (given acute mental status change).  Abx: day 6 of
   vanc/levo, day 4 of meropenem, acylovir, tamiflu
   - continue goal MAP > 65 to be obtained with dobutamine and levophed
   - For UTI: [**Last Name (un) 614**]/levo
   - For PNA: Currently on vancomycin and meropenem and levoquin for
   coverage of PNA
   - For possibility of meningitis: on Vanc + [**Last Name (un) 614**] + acyclovir
   - For possibiliity of influenza: on oseltamavir, ID does not want to
   r/o influenza until negative BAL
   - F/u urine cultures from nephrostomy tube, follow up multiple cxs
   - F/u HIV
   - call [**Hospital1 10990**] regarding blood culture data/growth, Urine
   culture growth.
   - F/u ID recs (including results from multiple cultures and serologies
   that were sent out)
   # Respiratory failure:  Cause of respiratory failure is likely
   multifactorial including evidence for multifocal PNA vs acute lung
   injury on CT, volume overload in setting of low EF.  Sputum negative.
   Has had hypoxia with high PEEP requirement which is concerning for
   acute lung injury.  PEEP 15 with PIP 30
   - wean as tolerated
   - Continue tx of pneumonia
   - If possible, can try bronch today to obtain BAL
   # Cardiomyopathy:  Ejection fraction is 10% and LV and RV are both
   moderately dilated, suggestive of a dilated cardiomyopathy.  Likely
   cause is from sepsis.  Also consider dilated cardiomyopathy include
   infectious causes (HIV, [**Location (un) **]) versus alcohol abuse versus
   autoimmune syndromes (lupus vs celiac disease), versus nutritional
   deficiences (thiamine, selenium, L-carnitine). Ischemia unlikely given
   age and lack of cardiac hx.    Degree of her hypothyroidism is not
   significant enough to cause this level myopathy.  Pt started thyroid
   replacement per endo recs.
   - F/u thiamine levels
   - touch base with cards re: further workup , i.e. ischemic workup
   - repeat ECHO when improved
   #Pericardial Effusion: Most likely causes is acute infectious process
   versus thyroid disease. On echo, does not seem to be causing any
   tamponade physiology.
   -Treat underlying thyroid disease as above
   -F/u cultures
   -F/u cardiology consult
   - f/u CVP
   # Altered Mental Status: Subacute process with acute decline.  Most
   likely [**12-31**] to sepsis versus toxic ingestion.   Acute vascular disease
   seems less likely given CT head negative.
   - Cont sepsis
   - Continue thyroid replacement
   - Continue empiric tx for meningoencephalitis w/ abx regimen per above
   - F/u CSF cultures and serologies
   #. Thrombocytopenia:  Pt has an isolated thrombocytopenia.  Most likely
   causes are ITP in setting of viral infection.  Possibly related to
   toxin ingestion.  TTP/DIC unlikely.   Thryombocytopenia more
   suggestive of destruction rather than underproduction given acuity of
   drop and without depression of other cell lines.
   - Platelets [**Hospital1 7**]
   - Transfuse if < 10 or if active signs of bleeding
   - F/u serologies
   - F/u hem/onc recs
   #. Acute renal failure:  Likely has an intermediate syndrome between
   pre-renal and ATN:  has granular casts on sediment however FeNA is .12%
   and Urine sodium is low.  Continues to be oliguric.
   - Cautious fluid boluses
   - Renally dose meds, follow  daily creatinines
   - c/s renal to spin urine, offer opinion on when dialysis should be
   considered
   #. Anemia: - hct 48->34->30 ->31, stable, no overt evidence of bleed.
   Drop likely secondary to fluids and or beginning of drop in all cell
   lines (although WBC still 26)
   -Check HCT this afternoon
   -transfuse if HCT falls < 25
   -maintain active type and screen
   #. Hydronephrosis: Found incidentally on renal ultrasound, moderate on
   the left.  Has a history of nephrolithiasis. Now with obstructing stone
   on L 6x5mm.  Nephrostomy tube placed and pustulant fluid drained
   growing GNR.
   -F/u cultures from fluid
   -CT did not show any local abscess
   #Hypothyroidism - continue levothroxine, endo following
   #. Substance abuse: SW c/s, psych to see when extubated
   #. Depression: Holding fluoxetine for now.  Psych c/s as above.
   #. FEN: lytes and replete as tolerated, continue TF
   #. PPX
   -Pneumoboots
   - bowel regimen
   # Code: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2115-9-23**] 04:15 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-20**] 05:11 PM
   20 Gauge - [**2115-9-22**] 10:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-24 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Vanc/Merrem/Tamiflu d/c'd
   Had mini BAL --> not good enough specimen for DFA flu, Gstain negative,
   PCP negative
   ID recs if Gstain negative for GP's can d/c Vanc
   Renal recs no indication to start renal replacement currently, will
   watch; can give [**11-30**] amps bicarb for non-gap acidosis with resp.
   compensation
   Continued on Lasix gtt with good UOP through yesterday
   Temp 100.6 at midnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2115-9-22**] 09:56 PM
   Meropenem - [**2115-9-23**] 08:00 AM
   Vancomycin - [**2115-9-23**] 11:00 AM
   Acyclovir - [**2115-9-23**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Dobutamine - 7 mcg/Kg/min
   Fentanyl - 175.1 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-9-23**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 82 (78 - 87) bpm
   BP: 111/52(69) {98/49(64) - 133/65(83)} mmHg
   RR: 18 (7 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 105 kg
    CVP: 11 (11 - 11)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  3,430 mL
                                                                    868 mL
   PO:
   TF:
                                                                    327 mL
                                                                    183 mL
   IVF:
                                                                  2,923 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                  1,035 mL
   Urine:
                                                                  3,950 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -520 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/32/113/17/-7
   Ve: 11.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: Pupils miotic 1mm and minimally responsive to light
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR, no murmurs. Heart
   sounds soft
   Respiratory / Chest: Coarse inpiratory sounds consistent with
   ventilation
   Abdominal: Soft, Non-tender
   Extremities: BLE's surprisinly without edema given fluid status
   Neurologic: Unresponsive, does not withdraw from pain
   Labs / Radiology
   80 K/uL
   9.2 g/dL
   197
   3.7 mg/dL
   17 mEq/L
   3.6 mEq/L
   75 mg/dL
   106 mEq/L
   138 mEq/L
   27.3 %
   17.6 K/uL
        [image002.jpg]
                            [**2115-9-23**]  02:00 PM
                            [**2115-9-23**]  02:58 PM
                            [**2115-9-23**]  03:00 PM
                            [**2115-9-23**]  03:09 PM
                            [**2115-9-23**]  04:00 PM
                            [**2115-9-23**]  06:00 PM
                            [**2115-9-23**]  08:06 PM
                            [**2115-9-24**]  03:24 AM
                            [**2115-9-24**]  03:44 AM
                            [**2115-9-24**]  04:00 AM
   WBC
   17.2
   17.6
   Hct
   27.5
   27.3
   Plt
   71
   80
   Cr
   3.6
   3.7
   3.7
   TCO2
   18
   18
   Glucose
   136
   103
   125
   128
   122
   95
   168
   197
   Other labs: PT / PTT / INR:12.3/24.3/1.0, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:42/32, Alk Phos / T Bili:189/0.4,
   Differential-Neuts:90.4 %, Band:0.0 %, Lymph:8.1 %, Mono:1.0 %, Eos:0.1
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL,
   LDH:368 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: [**9-23**] ESR 92  CRP126
   LDH 368
   BNP [**Numeric Identifier 11024**]
   hemolysis labs negative  --> hapto 313
   Imaging: CXR this am pending
   Microbiology: Mini BAL 2+ PMN's, negative for organisms
   PCP negative
   DFA for flu not done due to inadequate specimen
   [**2115-9-22**] BCx myco/lytic pending, BCx x2 ngtd
   [**2115-9-21**] sputum 2+ budding yeast
   [**2115-9-21**] CMV VL pending
   [**2115-9-20**] HBV VL pending
   Assessment and Plan
   59yoF admitted with AMS from possible Tramadol overdose, multifocal
   PNA's seen on chest CT, now with continued fevers, respiratory failure
   currently on ventilator, s/p perc nephrostomy tube for obstructive
   stone in L ureter,  EF of 14% with global hypokinesis seen on echo,
   acute renal failure, thrombocytopenia, and hypothyroidism, now seen to
   have anti TPO antibodes, continues to be unresponsive.
   1. Fevers--Continues to have fevers and WBC count still elevated. BCx's
   continue to be negative. Has positive yeast Cx from sputum but this
   likely commensural flora. Only possible sources are bibasilar opacities
   and LUL opacity that appears to be improved on yesterday's CXR and
   positive urine/fluid Cx from perc nephrostomy tube placement/drainage
   from [**2115-9-20**]. Yesterday, all ABx were pulled off except Levofloxacin
   to treat PNA, which would presumably cover GNR Klebsiella in urine as
   well.
   --F/u cultures and outstanding serologies
   --Continue with Levaquin today is day [**4-11**]
   --Will hold off on doing bronchoscopy for now as they won
t increase
   the yield of causative [**Doctor Last Name **].
   --Per Pharmacy, would need to switch to Cipro due to this hospital
   antibiograms
 d/c Levo and start Cipro
   --Call Radiology to get better sense of how CXR
s have changed over
   time and whether LUL/bibasilar opacities appear improved
   --Need to call [**Hospital1 608**] OSH to f/u Cx
s that were drawn there, just
   before pt got 3d of Levofloxacin and transfer to [**Hospital1 19**]
   --Brief summary of infectious workup:
     --> BCx from [**2115-9-22**] pending (myco/lytic), and negative to date BCx
   x6 from [**2115-9-18**] to [**2115-9-23**]
     --> Sputum Cx's [**2115-9-21**] showing yeast, negative [**2115-9-19**]
     --> UCx negative x2, but positive x2 with pansensitive Klebsiella on
   [**2115-9-20**]
     --> UCx Legionella negative
     --> Lyme serology pending
     --> Many serologies still pending: Adenovirus PCR, Ehrlichia,
   Babesia, [**Location (un) 2636**], Leptospira, LCM, Parvovirus B19
     --> CRP 126.6, ESR 100 --> 92
     --> Mini-BAL showing 81% PMN's, 3% lymphs, 1% atypical lymphos,
   macros 15% --> negative for PCP --> DFA for Flu was insufficient sample
   2. Hypothyroidism with elevated TPO
Could this be a Hashimoto
   encephalopathy? Myxedema coma less likely given no hypoTN or
   hypothermia. Could this have been a subclinical hypothyroidism that
   progressively worsened, now with acute insult superimposed and lack of
   appropriate thyroid response?
   --Need to f/u with Endocrinology
 specifically would ask them to weigh
   in on how this hypothyroidism is affected her heart and contributing to
   EF 10-15%, and what they think about this constellation of problems,
   i.e. how they put this puzzling clinical picture together
   --Continue with Levothyroxine 25mcg IV daily
   --Will need to repeat fT4/TSH to see if achieving therapeutic levels

 TSH 25 --> 19

 T4 <1.0 (4.6-12)

 fT4 0.10 (.93-1.7)

 T3 <20

 TBG normal

 Uptake ratio normal

 fT4 direct analysis pending

 anti-TPO  124 (0-35)
   3. Cardiomyopathy--Unclear etiology at present. Continues on pressors,
   recently switched from Neo/Levo to Dobutamine/Levo.
   --Hold off on heart failure regimen for now until hemodynamically
   normalized
s not HTN anyways, but could in long run benefit from
   ACEi and Bblocker
   --Start IV Chlorothiazide
   --F/u viral studies that are pending
   --Consider cardiac MRI to eval for myocarditis, but doubt that this
   would change management
   --Continues on Lasix gtt
   --PA catheter to manage fluid status?

 CE negative x1, BNP elevated 8605 --> [**Numeric Identifier 11024**]

 sepsis induced CMP, myocarditis ([**Location (un) 2636**], viral), pre-existing LV
   dysfxn from EtOH, hypothyroid induced, toxin mediated

 EF 14%, global hypokinesis, effusion but no sign of tamponade
   4. Respiratory failure--Last ABG showing  7.34/32/113/18  on CMV 15
   PEEP, 60% FiO2. Pt benefits from increased PEEP.
   --Will hold off on weaning for now as no change in underlying clinical
   problem.
   --Will continue to diurese with IV Lasix gtt today with goal of several
   L off
   5. Altered mental status--Likely multifactorial including toxic
   metabolic injury to the brain from toxin ingestion or sepsis vs effect
   of hypothyroidism
   --Attempt to wean Fentanyl gtt and Versed
 per nursing, pt gets
   agitated when off sedatives, so will not stop completely, just d/c
   continuous and give boluses prn
   --Continue with prophylactic Acyclovir for now until HSV from CSF comes
   back negative, then d/c
     --> LP [**2115-9-20**] without significant WBC's, protein elevated but
   glucose normal
     --> CSF Gstain and cryptococcal Ag negative
     --> CSF HIV pending
     --> Many CSF viral Cx's and serologies pending: enterovirus, HSV PCR,
   West [**Doctor First Name **] serology
     --> DFA for flu negative x1, and insufficient sample on mini BAL
   [**2115-9-23**]
   6. Acute Renal Failure--Per renal recs, not starting CVVH yet, going to
   continue to watch. Nephrostomy tube not draining pus.
   --Continue to trend Cr and if continues to worsen may need to proceed
   with renal replacement Tx
   7. Thrombocytopenia--Appears to be improving slowly
   --Continue to trend
   --F/u viral serologies
   --Per Heme Onc, transfuse for <10k or if bleeding <50k
   --Will touch base with Heme Onc about their index of suspicion for HIT,
   and if not high, can likely restart subQ Heparin for prophylaxis in bed
   bound pt.
   Thrombo
penia w/u:
     --> normal coags, not DIC
     --> negative smears, not TTP
     --> avoid Heparin, transfuse to >10k, if bleeding >50k
     --> HAV Ab negative, HBsAg and HBsAb negative, HCV Ab negative
           HIV negative, HCV VL negative, HBV VL pending
     --> EBV serology showing previous infection
     --> CMV serology showing previous infection
     --> CMV VL [**2115-9-21**] still pending
     --> Tox screen for ASA, EtOH, APAP, Benzos, Barbs, TCA's all
   negative
     --> ANCA negative, Anticardiolipins IgG and IgM [**Last Name (LF) 1298**], [**First Name3 (LF) **] normal, C3,
   C4 normal
   8. L Hydronephrosis/UTI--Grew out pan sensitive Klebsiella
   --Switch Levofloxacin to Cipro as above to cover Klebsiella from urine
     --> Last UA [**2115-9-20**] showing large blood, neg nitrite/trace LE/[**5-8**]
   WBC/many bacteria, 75 protein, neg glucose/15 ketones
     --> Is improved from UA before that large blood, pos nitrite/mod
   LE/>50 WBCs/mod bacteria
   9. DM2
Concerns that current sliding scale too aggressive so will
   decrease SSI down and watch BS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2115-9-23**] 10:16 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-20**] 05:11 PM
   20 Gauge - [**2115-9-22**] 10:22 PM
   Prophylaxis:
   DVT:   Pneumoboots, no subQ hep over concerns for HIT with
   thrombo
penia
   Stress ulcer:  Famotidine
   VAP:
   Comments:   BM regimen
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-25 06:33:00 Physician Resident Progress Note
Chief Complaint: Altered mental status and respiratory failure
   24 Hour Events:
   - Added history obtained from husband: pt had several months of
   progressive fatigue (after a week of work she would sleep from friday
   night to monday morning), bags under her eyes, poor coloring, sore back
   but not clearly DOE, weight gain, cold intolerance, hair loss.  Could
   have had symptomatic hypothyroidism?  She did have sleep apnea, which
   may have contributed to these symptoms.
   - Called [**Hospital1 608**]: no blood cx, stool cx negative, urine cx grew >100,000
   pan-sensitive klebsiella.
   - Shut off sedation, patient awoke and was agitated. Not able to follow
   commands.
   - Changed from levo to cipro for better klebsiella coverage based on [**Hospital1 **]
   antibiogram.
   - Added diuril, increase lasix gtt- negative 1.9 liters at 6pm
   - spoke w/ endocrine, they recommended sticking with IV levothyroxine
   and will round tomorrow and comment on possibility of hypothyroid
   encephalopathy.
   - reread chest CT by chest radiologist - did not disagree with prior
   read of multi-focal pneumonia.
   - restarted heparin SC
   - PM labs stable.
   - Patient had increased residuals (600ccs) after tube feeds and has
   gone two days without BMs.  Belly remains soft of exam.  KUB poor
   quality, but no signs of acute abdomen.  Tube feeds held.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2115-9-22**] 09:56 PM
   Meropenem - [**2115-9-23**] 08:00 AM
   Vancomycin - [**2115-9-23**] 11:00 AM
   Ciprofloxacin - [**2115-9-24**] 12:00 PM
   Acyclovir - [**2115-9-24**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 125 mcg/hour
   Furosemide (Lasix) - 12 mg/hour
   Dobutamine - 7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-25**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 90 (79 - 90) bpm
   BP: 137/68(90) {100/48(62) - 137/69(90)} mmHg
   RR: 20 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 105 kg
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  3,199 mL
                                                                    475 mL
   PO:
   TF:
                                                                    600 mL
   IVF:
                                                                  2,399 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                  7,225 mL
                                                                  1,840 mL
   Urine:
                                                                  6,675 mL
                                                                  1,290 mL
   NG:
                                                                    550 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,026 mL
                                                                 -1,365 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/28/147/19/-1
   Ve: 12 L/min
   PaO2 / FiO2: 294
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: Pupils miotic 1mm and minimally responsive to light
   bilaterally
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR, no murmurs. Heart
   sounds soft
   Respiratory / Chest: Coarse inpiratory sounds consistent with
   ventilation
   Abdominal: Soft, Non-tender
   Extremities: BLE's surprisinly without edema given fluid status
   Neurologic: Unresponsive, does not withdraw from pain
   Labs / Radiology
   96 K/uL
   8.6 g/dL
   104 mg/dL
   3.7 mg/dL
   19 mEq/L
   3.4 mEq/L
   74 mg/dL
   104 mEq/L
   137 mEq/L
   24.7 %
   17.2 K/uL
        [image002.jpg]
                            [**2115-9-23**]  04:00 PM
                            [**2115-9-23**]  06:00 PM
                            [**2115-9-23**]  08:06 PM
                            [**2115-9-24**]  03:24 AM
                            [**2115-9-24**]  03:44 AM
                            [**2115-9-24**]  04:00 AM
                            [**2115-9-24**]  03:33 PM
                            [**2115-9-25**]  03:01 AM
                            [**2115-9-25**]  03:18 AM
                            [**2115-9-25**]  05:59 AM
   WBC
   17.6
   17.2
   Hct
   27.3
   24.7
   Plt
   80
   96
   Cr
   3.7
   3.7
   3.7
   3.7
   TCO2
   18
   21
   21
   Glucose
   128
   122
   95
   168
   197
   219
   104
   Other labs: PT / PTT / INR:12.7/23.7/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:42/32, Alk Phos / T Bili:189/0.4,
   Differential-Neuts:90.4 %, Band:0.0 %, Lymph:8.1 %, Mono:1.0 %, Eos:0.1
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL,
   LDH:368 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Imaging: KUB (wetread): no free air, no signs of acute obstruction.
   Microbiology: HCV VL neg
   Lyme titer neg
   CMV VL neg
   Blood cx neg to date
   Assessment and Plan
 DELIRIUM / CONFUSION
 INEFFECTIVE COPING
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 THROMBOCYTOPENIA, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   59yoF admitted with AMS from possible Tramadol overdose, multifocal
   PNA's seen on chest CT, now with continued fevers, respiratory failure
   currently on ventilator, s/p perc nephrostomy tube for obstructive
   stone in L ureter,  EF of 14% with global hypokinesis seen on echo,
   acute renal failure, thrombocytopenia, and hypothyroidism, now seen to
   have anti TPO antibodes, continues to be unresponsive.
   1. Cardiomyopathy--Unclear etiology at present.  Ddx is viral
   myocarditis vs hypothyroidism vs shock heart Continues on Dobutamine,
   but norepinephrine has been stopped.
   --Hold off on heart failure regimen for now until hemodynamically
   normalized
s not HTN anyways, but could in long run benefit from
   ACEi and Bblocker
   --Start IV Chlorothiazide
   --F/u viral studies that are pending
   --Consider cardiac MRI to eval for myocarditis, but doubt that this
   would change management
   --Continues on Lasix gtt
   --PA catheter to manage fluid status?

 CE negative x1, BNP elevated 8605 --> [**Numeric Identifier 11024**]

 sepsis induced CMP, myocarditis ([**Location (un) 2636**], viral), pre-existing LV
   dysfxn from EtOH, hypothyroid induced, toxin mediated

 EF 14%, global hypokinesis, effusion but no sign of tamponade
   1. Fevers--Continues to have fevers and WBC count still elevated. BCx's
   continue to be negative. Has positive yeast Cx from sputum but this
   likely commensural flora. Only possible sources are bibasilar opacities
   and LUL opacity that appears to be improved on yesterday's CXR and
   positive urine/fluid Cx from perc nephrostomy tube placement/drainage
   from [**2115-9-20**]. Yesterday, all ABx were pulled off except Levofloxacin
   to treat PNA, which would presumably cover GNR Klebsiella in urine as
   well.
   --F/u cultures and outstanding serologies
   --Continue with Levaquin today is day [**4-11**]
   --Will hold off on doing bronchoscopy for now as they won
t increase
   the yield of causative [**Doctor Last Name **].
   --Per Pharmacy, would need to switch to Cipro due to this hospital
   antibiograms
 d/c Levo and start Cipro
   --Call Radiology to get better sense of how CXR
s have changed over
   time and whether LUL/bibasilar opacities appear improved
   --Need to call [**Hospital1 608**] OSH to f/u Cx
s that were drawn there, just
   before pt got 3d of Levofloxacin and transfer to [**Hospital1 19**]
   2. Hypothyroidism with elevated TPO
Could this be a Hashimoto
   encephalopathy? Myxedema coma less likely given no hypoTN or
   hypothermia. Could this have been a subclinical hypothyroidism that
   progressively worsened, now with acute insult superimposed and lack of
   appropriate thyroid response?
   --Need to f/u with Endocrinology
 specifically would ask them to weigh
   in on how this hypothyroidism is affected her heart and contributing to
   EF 10-15%, and what they think about this constellation of problems,
   i.e. how they put this puzzling clinical picture together
   --Continue with Levothyroxine 25mcg IV daily
   --Will need to repeat fT4/TSH to see if achieving therapeutic levels

 TSH 25 --> 19

 T4 <1.0 (4.6-12)

 fT4 0.10 (.93-1.7)

 T3 <20

 TBG normal

 Uptake ratio normal

 fT4 direct analysis pending

 anti-TPO  124 (0-35)
   4. Respiratory failure--Last ABG showing  7.34/32/113/18  on CMV 15
   PEEP, 60% FiO2. Pt benefits from increased PEEP.
   --Will hold off on weaning for now as no change in underlying clinical
   problem.
   --Will continue to diurese with IV Lasix gtt today with goal of several
   L off
   5. Altered mental status--Likely multifactorial including toxic
   metabolic injury to the brain from toxin ingestion or sepsis vs effect
   of hypothyroidism
   --Attempt to wean Fentanyl gtt and Versed
 per nursing, pt gets
   agitated when off sedatives, so will not stop completely, just d/c
   continuous and give boluses prn
   --Continue with prophylactic Acyclovir for now until HSV from CSF comes
   back negative, then d/c
     --> LP [**2115-9-20**] without significant WBC's, protein elevated but
   glucose normal
     --> CSF Gstain and cryptococcal Ag negative
     --> CSF HIV pending
     --> Many CSF viral Cx's and serologies pending: enterovirus, HSV PCR,
   West [**Doctor First Name **] serology
     --> DFA for flu negative x1, and insufficient sample on mini BAL
   [**2115-9-23**]
   6. Acute Renal Failure--Per renal recs, not starting CVVH yet, going to
   continue to watch. Nephrostomy tube not draining pus.
   --Continue to trend Cr and if continues to worsen may need to proceed
   with renal replacement Tx
   7. Thrombocytopenia--Appears to be improving slowly
   --Continue to trend
   --F/u viral serologies
   --Per Heme Onc, transfuse for <10k or if bleeding <50k
   --Will touch base with Heme Onc about their index of suspicion for HIT,
   and if not high, can likely restart subQ Heparin for prophylaxis in bed
   bound pt.
   Thrombo
penia w/u:
     --> normal coags, not DIC
     --> negative smears, not TTP
     --> avoid Heparin, transfuse to >10k, if bleeding >50k
     --> HAV Ab negative, HBsAg and HBsAb negative, HCV Ab negative
           HIV negative, HCV VL negative, HBV VL pending
     --> EBV serology showing previous infection
     --> CMV serology showing previous infection
     --> CMV VL [**2115-9-21**] still pending
     --> Tox screen for ASA, EtOH, APAP, Benzos, Barbs, TCA's all
   negative
     --> ANCA negative, Anticardiolipins IgG and IgM [**Last Name (LF) 1298**], [**First Name3 (LF) **] normal, C3,
   C4 normal
   8. L Hydronephrosis/UTI--Grew out pan sensitive Klebsiella
   --Switch Levofloxacin to Cipro as above to cover Klebsiella from urine
     --> Last UA [**2115-9-20**] showing large blood, neg nitrite/trace LE/[**5-8**]
   WBC/many bacteria, 75 protein, neg glucose/15 ketones
     --> Is improved from UA before that large blood, pos nitrite/mod
   LE/>50 WBCs/mod bacteria
   9. DM2
Concerns that current sliding scale too aggressive so will
   decrease SSI down and watch BS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-20**] 05:11 PM
   20 Gauge - [**2115-9-22**] 10:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-26 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - got Dobhoff tube placed yesterday, well placed
   - only on dobutamine, levo off
   - was negative 4L yesterday
   - endocrine recs: inconclusive data about hashimoto encephalopathy,
   unable to determine if this is the etiology, however the hypothyroidism
   can cause the cardiac decline, recheck thyroid function tests in [**4-3**]
   wks, continue current dose of levothyroixine
   - ID recs: Cipro x14d then repeat CT to re-eval for renal abscess, d/c
   acyclovir
   - respiratory alkalosis  7.49/30/114/23
 decreased RR
   - started on PO Narcan but still hasn't had BM, and got a little more
   agitated afterwards
   - had 500cc
s bile and TF material this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2115-9-23**] 08:00 AM
   Vancomycin - [**2115-9-23**] 11:00 AM
   Acyclovir - [**2115-9-24**] 04:00 PM
   Ciprofloxacin - [**2115-9-25**] 01:40 PM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Propofol - 35 mcg/Kg/min
   Dobutamine - 6 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-9-25**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2115-9-25**] 03:48 PM
   Midazolam (Versed) - [**2115-9-26**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-26**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 68 (61 - 84) bpm
   BP: 103/64(81) {96/50(68) - 149/129(137)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 105 kg
    CVP: 8 (8 - 9)mmHg
   Total In:
                                                                  2,125 mL
                                                                    712 mL
   PO:
   TF:
                                                                     85 mL
                                                                    191 mL
   IVF:
                                                                  1,870 mL
                                                                    521 mL
   Blood products:
   Total out:
                                                                  6,510 mL
                                                                  2,110 mL
   Urine:
                                                                  5,525 mL
                                                                  1,870 mL
   NG:
                                                                    985 mL
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,385 mL
                                                                 -1,398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 720 (720 - 720) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.42/38/99.[**Numeric Identifier 508**]/25/0   at 3:49 [**2115-9-26**]
   Ve: 7.2 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Eyes open, appears to be gagging
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   8.5 g/dL
   120 mg/dL
   3.6 mg/dL
   25 mEq/L
   3.2 mEq/L
   75 mg/dL
   101 mEq/L
   139 mEq/L
   24.4 %
   17.7 K/uL
        [image002.jpg]
                            [**2115-9-24**]  03:44 AM
                            [**2115-9-24**]  04:00 AM
                            [**2115-9-24**]  03:33 PM
                            [**2115-9-25**]  03:01 AM
                            [**2115-9-25**]  03:18 AM
                            [**2115-9-25**]  05:59 AM
                            [**2115-9-25**]  12:40 PM
                            [**2115-9-25**]  08:06 PM
                            [**2115-9-26**]  03:41 AM
                            [**2115-9-26**]  03:49 AM
   WBC
   17.2
   16.9
   17.7
   Hct
   24.7
   24.9
   24.4
   Plt
   96
   120
   147
   Cr
   3.7
   3.7
   3.8
   3.6
   TCO2
   18
   21
   21
   23
   25
   Glucose
   197
   219
   104
   111
   120
   120
   Other labs: PT / PTT / INR:12.7/23.7/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16, Alk Phos / T Bili:148/0.5,
   Differential-Neuts:90.4 %, Band:0.0 %, Lymph:8.1 %, Mono:1.0 %, Eos:0.1
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL,
   LDH:368 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Imaging: [**2115-9-25**] CXR
   Multifocal consolidation unchanged from immediate prior
   radiographs could be pneumonia, but rapid changes pre viously since
   [**9-18**], are more consistent with asymmetric pulmonary edema. Persistent
   pericardial effusion.
   Microbiology:
 URINE CULTURE - At [**2115-9-25**] 12:48 PM
 BLOOD CULTURED - At [**2115-9-25**] 12:48 PM
 BLOOD CULTURED - At [**2115-9-25**] 02:00 PM
   Assessment and Plan
   59yoF admitted with AMS from possible Tramadol overdose, multifocal
   PNA's seen on chest CT, now with continued fevers, respiratory failure
   currently on ventilator, s/p perc nephrostomy tube for obstructive
   stone in L ureter,  EF of 14% with global hypokinesis seen on echo,
   acute renal failure, thrombocytopenia, and hypothyroidism, now seen to
   have anti TPO antibodes, continues to be unresponsive. Hashimoto's
   encephalopathy not very high on list of probably diagnoses to explain
   her mental status, but very likely cause of her cardiomyopathy, per
   Endo.
   1. Cardiomyopathy--DDx is viral myocarditis vs hypothyroidism vs shock
   heart. Continues on Dobutamine, but norepinephrine has been stopped.
   Cardiac function appears to be improving with diuresis.  Long term,
   once he has stabilized, we can consider repeating an echocardiogram and
   beginning heart failure medications (beta blocker) if stabilized.
   --Continue dobutamine at present to allow for further diuresis.
   --Continue Lasix gtt as is, with overall goal of 3-4L negative again
   today, as pt still up 5L for [**Location 11091**]/u viral studies that are pending
   2. Increased residuals from tube feeds: Unclear why she is having
   decreased gastric emptying.  Ddx includes SBO (less likely given
   abdomen soft), ileus or delayed gastric emptying.  Gastroparesis is
   common in the setting of sedating meds.  It is worrisome that she has
   not had a bowel movement for a couple of days now.
   Had post pyloric Dobhoff placed yesterday for nutrition
   --Increase Lactulose and up titrate to BM
   Doc/Senna/Lactulose
   - repeat KUB.
   3. Hypothyroidism with elevated TPO - given her prior history of
   slowing and weight gain, we are again wondering if this could be
   Hashimoto
s encephalopathy. Myxedema coma not likely given no hypoTN or
   hypothermia.  However, it could be a subclinical hypothyroidism that
   progressively worsened, now with acute insult superimposed and lack of
   appropriate thyroid response.
   repeat TFTs in [**4-3**] wks per Endo recs
   Continue with Levothyroxine 25mcg IV daily, no utility in repeating
   thyroid function testing for at least 2 weeks.
   4. Fevers--Last temp [**Age over 90 **] yesterday at 4am. Switched to cipro to cover
   Klebsiella
   UCX and BCx regathered yesterday
   CXR re done yesterday Multifocal consolidation unchanged from immediate
   prior
   radiographs could be pneumonia, but rapid changes pre viously since
   [**9-18**], are more consistent with asymmetric pulmonary edema. Persistent
   pericardial effusion.
   Continue cipro day 3, day 7 of fluoroquinolones
   Continues to have low grade temps and elevated WBC count, though
   overall fever curve may be improving. All cultures beyond initial
   klebsiella continue to be negative.  Other possible source is the
   bibasilar opacities and LUL opacity that appears to be improved on
   yesterday's CXR.  On ciprofloxacin to cover pan-sensitive klebsiella
   and multi-focal lung infiltrates.  Considering the continued
   leukocytosis it would be helpful to screen again for possible bacterial
   infection.
   - Re-culture blood and urine.  Sputum cultures were done recently.
   - F/u cultures and outstanding serologies
   - Continue with Ciprofloxacin. Today is day 3 of cipro and day [**6-11**] of
   fluroquinolones.
   - Continue to follow CXRs.
   5. Anemia
Patient
s Hct has been trending down slowly, likely due to
   marrow suppression in setting of overwhelming infection vs.
   hypothyroidism.  Hemolysis labs were negative.
   --Continue to trend, Hct steady in 24's.
   - Consider re-consulting heme-onc to assess causes for low retic and
   falling Hct.
   - Transfuse for Hct<21.
   6. Altered mental status - Likely multifactorial including toxic
   metabolic injury to the brain from toxin ingestion or sepsis vs effect
   of hypothyroidism
   --Will need to continue Propofol for now as pt still a little wild,
   with continued trials of weaning, however already seen to be
   unsuccessful this am
   - Stop acyclovir as HSV PCR from CSF is negative.
   - When sedation is weaned, she becomes acutely agitated so we will
   continue with light sedation.
   - Enterovirus, West [**Doctor First Name **] serology are pending
   5. Respiratory failure--Last ABG showing 7.42/38/99.[**Numeric Identifier 508**]/25/0   ,
   patient continues on Assist Control with gradual weaning.
   --Continue weaning
   - Will continue to diurese with IV Lasix gtt today with goal of several
   L off.
   - Continue daily CXRs.
   6. Acute Renal Failure--Per renal recs, not starting CVVH yet. Cr
   stable and making good urine. Nephrostomy tube not draining pus.
   --Continue to trend Cr which now appears stable.
   7. Thrombocytopenia--Appears to be improving slowly
   --Continue to trend in setting of restarting heparin.
   8. L Hydronephrosis/UTI
 Drain remained in place, grew out pan
   sensitive Klebsiella
   Continue for total 14d course of Cipro
   ----Will need reimaging for now
   -- Will eventually need stone and drain removed.
   -- Cipro as above to cover Klebsiella from urine
   9. DM2
Concerns that current sliding scale too aggressive so will
   decrease SSI down and watch BS
   ---Lantus 40U and 4U starting at 120 and going up by 2U q 40
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2115-9-26**] 06:08 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-20**] 05:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-27 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Got colace, senna, lactulose, 100cc's Golytely, 2L tap H2O enemas,
   and still minimal stool
   --2pm Dobutamine down to 3mcg/hr, good UOP 180-200/hr
   --Nursing pulled out 700 cc's TF's by 2pm
 TF held
   --By the later afternoon had episode of desat to 80's, was taken to
   FiO2 100% for 3mins and Dobutamine upped back to 5mcg/hr and left
   there. Checked back later and sats were back to 97% on FiO2 40% with
   Dobutamine running 5mcg/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2115-9-24**] 04:00 PM
   Ciprofloxacin - [**2115-9-26**] 12:00 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-9-26**] 11:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-27**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 81 (67 - 93) bpm
   BP: 149/75(100) {124/59(79) - 164/75(108)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 105 kg
             Total In:
                                                                  3,588 mL
                                                                  1,030 mL
   PO:
             TF:
                                                                    201 mL
   IVF:
                                                                  2,447 mL
                                                                    650 mL
   Blood products:
   Total out:
                                                                  7,055 mL
                                                                  1,935 mL
   Urine:
                                                                  5,880 mL
                                                                  1,755 mL
   NG:
                                                                  1,175 mL
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,467 mL
                                                                   -905 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 355 (355 - 355) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.47/37/90.[**Numeric Identifier 126**]/28/3
   Ve: 7.3 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   192 K/uL
   8.5 g/dL
   72 mg/dL
   3.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   67 mg/dL
   98 mEq/L
   137 mEq/L
   25.4 %
   14.8 K/uL
        [image002.jpg]
                            [**2115-9-25**]  05:59 AM
                            [**2115-9-25**]  12:40 PM
                            [**2115-9-25**]  08:06 PM
                            [**2115-9-26**]  03:41 AM
                            [**2115-9-26**]  03:49 AM
                            [**2115-9-26**]  01:26 PM
                            [**2115-9-26**]  06:00 PM
                            [**2115-9-26**]  08:30 PM
                            [**2115-9-27**]  04:44 AM
                            [**2115-9-27**]  04:54 AM
   WBC
   16.9
   17.7
   14.8
   Hct
   24.9
   24.4
   25.4
   Plt
   120
   147
   192
   Cr
   3.8
   3.6
   3.5
   3.0
   TCO2
   21
   23
   25
   26
   27
   28
   Glucose
   111
   120
   120
   97
   76
   72
   Other labs: PT / PTT / INR:12.6/25.6/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16, Alk Phos / T Bili:148/0.5,
   Differential-Neuts:86.0 %, Band:1.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:2.0
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL,
   LDH:368 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   59yoF admitted with AMS from possible Tramadol overdose, multifocal
   PNA's seen on chest CT, now with continued fevers, respiratory failure
   currently on ventilator, s/p perc nephrostomy tube for obstructive
   stone in L ureter,  EF of 14% with global hypokinesis seen on echo,
   acute renal failure, thrombocytopenia, and hypothyroidism, now seen to
   have anti TPO antibodes, continues to be unresponsive. Hashimoto's
   encephalopathy not very high on list of probably diagnoses to explain
   her mental status, but very likely cause of her cardiomyopathy, per
   Endo.
   1. Cardiomyopathy--DDx is viral myocarditis vs hypothyroidism vs shock
   heart. Continues on Dobutamine, but norepinephrine has been stopped.
   Cardiac function appears to be improving with diuresis.  Will need echo
   in the future and likely a heart failure regimen as her BP can tolerate
   it, including Bblocker and ACEi.
   --Has had good UOP with Dobutamine but will try to wean today and watch
   UOP.
   --Continue Lasix gtt as is, with overall goal of 3-4L negative again
   today, as pt still up 5L for [**Location 11091**]/u viral studies that are pending
   2. Increased residuals from tube feeds
Has not had BM for about a week
   now. No bowel sounds. Worrisome for ileus, gastroparesis, possible
   effect of too much sedating meds on the bowel.
   --Had post pyloric Dobhoff placed yesterday for nutrition, is well
   placed
   --Increase Lactulose and up titrate to BM
   --Free water enemas followed by Dulcolax suppositories
   -- repeat KUB to make sure no SBO/LBO
   3. Hypothyroidism with elevated TPO
Not likely Hashimoto
   encephalopathy, which is diagnosis of exclusion, per Endo.
   Cardiomyopathy most likely is due to hypothyroidism though.
   --Continue thyroxine as is.
   --repeat TFTs in [**4-3**] wks per Endo recs
   4. Fevers--Last temp [**Age over 90 **] yesterday at 4am, afebrile through rest of
   yesterday. WBC
s stable and elevated at 17. Switched to cipro yesterday
   to cover Klebsiella. UCX and BCx regathered yesterday.  CXR re-done
   yesterday more consistent with asymmetric pulmonary edema.
   --F/u Cx
   --F/u cultures and outstanding serologies
   --Continue with Ciprofloxacin. Today is day 3 of cipro and day [**6-11**] of
   fluroquinolones.
   --Continue to follow CXRs.
   5. Anemia
Patient
s Hct has been trending down slowly, likely due to
   marrow suppression in setting of overwhelming infection vs.
   hypothyroidism.  Hemolysis labs were negative.
   --Continue to trend, Hct steady in 24's.
   --Transfuse for Hct<21.
   6. Altered mental status - Likely multifactorial including toxic
   metabolic injury to the brain from toxin ingestion or sepsis vs effect
   of hypothyroidism
   --Will need to continue Propofol for now as pt still a little wild,
   with continued trials of weaning, however already seen to be
   unsuccessful this am
   --Have stopped acyclovir as HSV PCR from CSF is negative.
   --Enterovirus, West [**Doctor First Name **] serology are pending
    7. Respiratory failure--Last ABG showing 7.42/38/100/25/0, patient
   continues on Assist Control with gradual weaning.
   --Continue weaning, will try to decrease PEEP today
   --Will continue to diurese with IV Lasix gtt today with goal of several
   L off.
   --Continue daily CXRs.
   8. Acute Renal Failure--Per renal recs, not starting CVVH yet. Cr
   stable and making good urine. Nephrostomy tube not draining pus.
   --Continue to trend Cr which now appears stable.
   9. Thrombocytopenia--Appears to be improving slowly, is up to 140 today
   and increasing
   --Continue to trend in setting of restarting heparin.
   10. L Hydronephrosis/UTI
 Drain remained in place, grew out pan
   sensitive Klebsiella
   --Continue for total 14d course of Cipro
   --Will need reimaging if the future per ID recs to assess for abscess
   -- Will eventually need stone and drain removed.
   -- Cipro as above to cover Klebsiella from urine.
   #. DM2--Lantus 40U and 4U starting at 120 and going up by 2U q 40,
   watch BS
   #. FEN: lytes and replete as tolerated, continue TF
   #. PPX
   - Pneumoboots
   - bowel regimen
   # Code: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-20**] 05:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-28 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Off of dobutamine and lasix drip.
   - PM lytes: stable, improving renal function.
   - Bradycardic to 56-58 with stable BPs at 11pm. Nothing done.
   - Hold POs, try lactulose enema
   - CT abd/pelvis: No evidence of bowel obstruction. Probable focal
   colonic ileus in the right upper abdomen, improved multifocal
   pneumonia.
   - Echo: LVEF = 40-45%, mild global hypokinesis.
   - A-line not working.  Tried to replace over a wire, but line already
   fallen out.
   - Endo recs: increase levothyroxine to 50mcg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-9-27**] 11:30 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-9-27**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-28**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 68 (58 - 87) bpm
   BP: 107/59(69) {87/50(58) - 130/75(88)} mmHg
   RR: 19 (17 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.5 kg (admission): 105 kg
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  3,350 mL
                                                                  1,371 mL
   PO:
   TF:
   IVF:
                                                                  2,200 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  4,850 mL
                                                                  2,720 mL
   Urine:
                                                                  4,420 mL
                                                                    770 mL
   NG:
                                                                    430 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,500 mL
                                                                 -1,349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 7.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   8.9 g/dL
   68 mg/dL
   2.7 mg/dL
   30 mEq/L
   3.0 mEq/L
   59 mg/dL
   101 mEq/L
   141 mEq/L
   25.2 %
   12.7 K/uL
        [image002.jpg]
                            [**2115-9-25**]  08:06 PM
                            [**2115-9-26**]  03:41 AM
                            [**2115-9-26**]  03:49 AM
                            [**2115-9-26**]  01:26 PM
                            [**2115-9-26**]  06:00 PM
                            [**2115-9-26**]  08:30 PM
                            [**2115-9-27**]  04:44 AM
                            [**2115-9-27**]  04:54 AM
                            [**2115-9-27**]  03:33 PM
                            [**2115-9-28**]  03:57 AM
   WBC
   17.7
   14.8
   12.7
   Hct
   24.4
   25.4
   25.2
   Plt
   147
   192
   225
   Cr
   3.6
   3.5
   3.0
   2.8
   2.7
   TCO2
   23
   25
   26
   27
   28
   Glucose
   120
   120
   97
   76
   72
   71
   68
   Other labs: PT / PTT / INR:12.6/26.8/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16, Alk Phos / T Bili:148/0.5,
   Differential-Neuts:85.0 %, Band:2.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:1.0
   %, Fibrinogen:730 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL,
   LDH:368 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Imaging: - CT abd/pelvis: No evidence of bowel obstruction. Probable
   focal colonic ileus in the right upper abdomen, improved multifocal
   pneumonia.
   - Echo: LVEF = 40-45%, mild global hypokinesis.
   Assessment and Plan
   59yoF admitted with AMS, sepsis from obstructed renal stone s/p perc
   nephrostomy, cardiomyopathy likely from hypothyroidism as well as
   respiratory failure likely from acute lung injury.
   #.  Cardiomyopathy and Pericardial Effusion
EF improving to 40% and
   stable effusion without tamponade physiology.  Likely from
   hypothyroidism.  Also in differential is viral myocarditis vs shock
   heart. Off Dobutamine and norepinephrine.  Cardiac function appears to
   be improving.  Will need a heart failure regimen as her BP can tolerate
   it, including Bblocker and ACEi.  Lasix gtt held.
   --F/u viral studies pending
   #. Abdominal distention
CT negative for obstruction but with focal
   ileus.  Holding TF for high residuals and aggressive enemas.  No effect
   of PO narcan.  No response to increased bowel regimen or enemas
   yesterday.  Dobhoff pulled.
   --Continue enemas as tolerated
   #. Altered mental status - Likely multifactorial including toxic
   metabolic injury to the brain from toxin ingestion or sepsis vs effect
   of hypothyroidism.  However, no improvement in mental status with
   treatment of infection.  Have stopped acyclovir as HSV PCR from CSF is
   negative.
   --Wean sedation and hold benzos and reassess mental status
   --Enterovirus, West [**Doctor First Name **] serology are pending
   --If no improvement over the weekend, consider neuro recs
   --urine benzos to eval if sedation is contributing to AMS
   --neuro c/s when benzos clear
   #. Hypothyroidism with elevated TPO
On thyroid replacement.  Per
   endocrine, not likely Hashimoto
s encephalopathy.
   --Increase levothyroxin to 50
   --repeat TFTs in [**4-3**] wks
   #. Pyelonephritis
L obstructive stone, perc nephrostomy in place,
   cultures positive for pan sensitive Klebsiella.  On Cipro day 5 ([**8-12**]
   of fluroquinolones).
   --Continue for total 14d course of Cipro
   --Will need reimaging if the future per ID recs to assess for abscess
   -- Will eventually need stone and drain removed.
   -- Cipro as above to cover Klebsiella from urine.
    #.  Fevers
Afebrile >48hrs. WBC
s stable and trending down. Switched
   to cipro yesterday to cover Klebsiella. UCX and BCx regathered
   yesterday.  CXR re-done yesterday more consistent with asymmetric
   pulmonary edema.
   --F/u Cx
   --F/u cultures and outstanding serologies
   --Continue with Ciprofloxacin. Today is day 4 of cipro and day [**7-12**] of
   fluroquinolones.
   --Continue to follow CXRs.
   #. Anemia
Patient
s Hct has been trending down slowly, likely due to
   marrow suppression in setting of overwhelming infection vs.
   hypothyroidism.  Hemolysis labs were negative.
   --Continue to trend Hct daily.
   --Transfuse for Hct<21.
   #. Respiratory failure
Not tolerating weaning for long yesterday.
   --Continue weaning as tolerated, decrease PEEP
   --Continue lasix gtt
   --CT chest for underlying cause of failure
   #. Acute Renal Failure-- Cr stable and making good urine. Nephrostomy
   tube not draining pus.
   --Continue to trend Cr which now appears stable.
   #. Thrombocytopenia--Appears to be improving slowly, is up to 140 today
   and increasing
   --Continue to trend in setting of restarting heparin.
   #. DM2--Lantus 40U and 4U starting at 120 and going up by 2U q 40,
   watch BS
   #. FEN:
   - replete lytes and follow [**Hospital1 7**]
   - hold TF
   #. PPX
   - Pneumoboots
   - bowel regimen
   # Code: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-29 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --[**2115-9-27**] Had CT abd/pelvis showing  1. No evidence of bowel
   obstruction. Probable focal colonic ileus in the
   right upper abdomen. 2. Improved multifocal pneumonia. 3. Unchanged
   moderately large pericardial effusion.
   4. Fatty liver. 5. Nephrolithiasis.
   --10/30/0 Had echo showing 40-45% mild global hypokinesis
   --Now off Lasix and dobutamine gtt
   --Given ileus started on bowel rest
   --Urine benzos positive, neuro consult held until sedation cleared
   --Has mushroom cath draining stool
   --Still on propofol and noted by nursing to be more agitated, pulling
   at lines when it's off. Running at 60mcg/kg/min
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-9-28**] 12:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-9-28**] 07:54 PM
   Heparin Sodium (Prophylaxis) - [**2115-9-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-29**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 62 (62 - 77) bpm
   BP: 98/53(63) {96/40(56) - 118/77(90)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.5 kg (admission): 105 kg
    CVP: 7 (7 - 8)mmHg
   Total In:
                                                                  2,538 mL
                                                                    360 mL
   PO:
   TF:
   IVF:
                                                                  1,498 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  4,200 mL
                                                                  1,155 mL
   Urine:
                                                                  1,800 mL
                                                                    755 mL
   NG:
                                                                  1,050 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,662 mL
                                                                   -795 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.48/40/73.[**Numeric Identifier 218**]/28/5
   Ve: 8.4 L/min
   PaO2 / FiO2: 183
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   8.5 g/dL
   73 mg/dL
   2.3 mg/dL
   28 mEq/L
   3.2 mEq/L
   49 mg/dL
   102 mEq/L
   140 mEq/L
   24.2 %
   12.1 K/uL
        [image002.jpg]
                            [**2115-9-26**]  03:49 AM
                            [**2115-9-26**]  01:26 PM
                            [**2115-9-26**]  06:00 PM
                            [**2115-9-26**]  08:30 PM
                            [**2115-9-27**]  04:44 AM
                            [**2115-9-27**]  04:54 AM
                            [**2115-9-27**]  03:33 PM
                            [**2115-9-28**]  03:57 AM
                             [**2115-9-29**]  01:48 AM
                             [**2115-9-29**]  05:26 AM
   WBC
   14.8
   12.7
   12.1
   Hct
   25.4
   25.2
   24.2
   Plt
   192
   225
   258
   Cr
   3.5
   3.0
   2.8
   2.7
   2.3
   TCO2
   25
   26
   27
   28
   31
   Glucose
   120
   97
   76
   72
   71
   68
   73
   Other labs: PT / PTT / INR:12.8/26.7/1.1  ([**2115-9-29**]), CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16    ([**2115-9-25**]), Alk Phos / T
   Bili:148/0.5, Differential-Neuts:85.0 %, Band:2.0 %   [**2115-9-28**],
   Lymph:5.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:730 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:368 IU/L, Ca++:7.9 mg/dL
   (today), Mg++:1.8 mg/dL   (today), PO4: 4.6  mg/dL  (today)
   Assessment and Plan
   59yoF admitted with AMS, sepsis from obstructed renal stone s/p perc
   nephrostomy, cardiomyopathy likely from hypothyroidism as well as
   respiratory failure likely from acute lung injury.
   #.  Cardiomyopathy and Pericardial Effusion
EF improving to 40% and
   stable effusion without tamponade physiology.  Likely from
   hypothyroidism.  Also in differential is viral myocarditis vs shock
   heart. Off Dobutamine and norepinephrine.  Cardiac function appears to
   be improving.  Will need a heart failure regimen as her BP can tolerate
   it, including Bblocker and ACEi.  Lasix gtt held.
   --F/u viral studies pending
   --[**Location (un) 2636**] negative, B1 within normal limits
   --Continue Lasix diuresis today with gentle gtt and IV bolus
   #. Abdominal distention
CT negative for obstruction but with focal
   ileus.  Holding TF for high residuals and aggressive enemas.  No effect
   of PO narcan.  No response to increased bowel regimen or enemas
   yesterday.  Dobhoff pulled.
   --Continue with bowel regimen today and watch stool output
   --If stool output doesn
t increase will consult surgery tomorrow to
   inquire about focal RUQ ileus
   #. Altered mental status - Likely multifactorial including toxic
   metabolic injury to the brain from toxin ingestion or sepsis vs effect
   of hypothyroidism.  However, no improvement in mental status with
   treatment of infection.  Have stopped acyclovir as HSV PCR from CSF is
   negative.
   --Holding benzos and allowing time for them to clear. Had positive UA
   for benzos yesterday, will need to reassess with repeat UA tomorrow
   --Enterovirus is negative, West [**Doctor First Name **] serology are pending
   --Wait until urine benzos are negative, then consider neuro consult to
   assess AMS
   #. Hypothyroidism with elevated TPO
On thyroid replacement.  Per
   endocrine, not likely Hashimoto
s encephalopathy.
   --Increase levothyroxin to 50 IV qday
   --repeat TFTs in [**4-3**] wks
   #. Pyelonephritis
L obstructive stone, perc nephrostomy in place,
   cultures positive for pan sensitive Klebsiella.  On Cipro day 6 ([**9-11**]
   of fluroquinolones).
   --Continue for total 14d course of Cipro
   --Will need reimaging if the future per ID recs to assess for abscess
   -- Will eventually need stone and drain removed.
   -- Cipro as above to cover Klebsiella from urine.
    #.  Fevers
Last temp 100 was [**2115-9-27**] at 4pm, afebrile since. WBC
   stable and trending down. Currently on Cipro to cover Klebsiella in
   urine. UCX and BCx regathered [**2115-9-25**] are all still negative.
   --F/u Cx
   --F/u cultures and outstanding serologies
   --Continue with Ciprofloxacin. Today is day 6 of cipro and day [**9-11**] of
   fluroquinolones.
   --Continue to follow CXRs.
   #. Anemia
Patient
s Hct has been trending down slowly, likely due to
   marrow suppression in setting of overwhelming infection vs.
   hypothyroidism. Currently Hct is holding steady in 24-25 range.
   Hemolysis labs were negative.
   --Continue to trend Hct daily.
   --Transfuse for Hct<21.
   #. Respiratory failure
Not tolerating weaning for long yesterday.
   --Continue weaning as tolerated, decrease PEEP
   --Lasix gtt is now off
   --CT chest with improvement in multifocal PNA
   #. Acute Renal Failure-- Cr stable and making good urine. Nephrostomy
   tube not draining pus.
   --Continue to trend Cr which now appears stable and improving.
   #. Thrombocytopenia--Appears to be improving slowly, is up to 258 today
   and increasing
   --Continue to trend in setting of restarting heparin.
   #. DM2--Lantus 40U and 4U starting at 120 and going up by 2U q 40,
   watch BS
   #. FEN:
   - replete lytes and follow [**Hospital1 7**]
   - hold TF
   #. PPX
   - Pneumoboots
   - bowel regimen
   - Famotidine
   - No subQ heparin as she was thrombopenic
   # Code: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-09-30 07:04:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   24hr events
   --100mg IV Lasix x1 and Lasix gtt   --> negative 1L by 830pm
   --Amylase and lipase elevated --> TG's added on. Consider stopping
   Propofol (currently 100mcg/kg/min) and re-CT belly (although had one
   [**2115-9-27**] without evidence of pancreatitis)
   --Continued with Doc/Senna/Lactulose
   --Will need surgery consult (Mowskenson vs [**Doctor Last Name 518**]) 1st thing in the
   am on [**9-30**] to evaluate focal RUQ ileus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-9-29**] 12:03 PM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2115-9-29**] 05:30 PM
   Famotidine (Pepcid) - [**2115-9-29**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2115-9-30**] 12:00 AM
   Haloperidol (Haldol) - [**2115-9-30**] 02:51 AM
   Fentanyl - [**2115-9-30**] 03:45 AM
   Midazolam (Versed) - [**2115-9-30**] 05:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-30**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 68 (59 - 93) bpm
   BP: 143/51(75) {79/41(50) - 143/75(90)} mmHg
   RR: 19 (13 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
    CVP: 11 (7 - 12)mmHg
   Total In:
                                                                  2,368 mL
                                                                    743 mL
   PO:
   TF:
   IVF:
                                                                  2,027 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  3,378 mL
                                                                  1,865 mL
   Urine:
                                                                  2,458 mL
                                                                  1,665 mL
   NG:
                                                                    920 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                 -1,122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 38.8 cmH2O/mL
   SpO2: 99%
   ABG: ///30/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   9.0 g/dL
   114 mg/dL
   2.2 mg/dL
   30 mEq/L
   3.8 mEq/L
   40 mg/dL
   101 mEq/L
   142 mEq/L
   27.0 %
   17.1 K/uL
        [image002.jpg]
                            [**2115-9-26**]  06:00 PM
                            [**2115-9-26**]  08:30 PM
                            [**2115-9-27**]  04:44 AM
                            [**2115-9-27**]  04:54 AM
                            [**2115-9-27**]  03:33 PM
                            [**2115-9-28**]  03:57 AM
                             [**2115-9-29**]  01:48 AM
                             [**2115-9-29**]  05:26 AM
                             [**2115-9-29**]  05:40 PM
                             [**2115-9-30**]  04:08 AM
   WBC
   14.8
   12.7
   12.1
   17.1
   Hct
   25.4
   25.2
   24.2
   27.0
   Plt
   192
   225
   258
   315
   Cr
   3.0
   2.8
   2.7
   2.3
   2.2
   2.2
   TCO2
   26
   27
   28
   31
   Glucose
   76
   72
   71
   68
   73
   84
   114
   Other labs: PT / PTT / INR:12.8/26.7/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16, Alk Phos / T Bili:148/0.5,
   Amylase / Lipase:155/218, Differential-Neuts:82.6 %, Band:2.0 %,
   Lymph:13.5 %, Mono:2.1 %, Eos:1.3 %, Fibrinogen:730 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:368 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 CONSTIPATION (OBSTIPATION, FOS)
 DELIRIUM / CONFUSION
 INEFFECTIVE COPING
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 THROMBOCYTOPENIA, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   59yoF admitted with AMS, sepsis from obstructed renal stone s/p perc
   nephrostomy, cardiomyopathy likely from hypothyroidism as well as
   respiratory failure likely from acute lung injury.  Now with improving
   cardiac and renal function, but persistently altered mental status and
   new focal ileus.
   #. Abdominal distention
CT negative for obstruction but with focal
   ileus.  Holding TF for high residuals and aggressive enemas.  No effect
   of PO narcan.  No response to increased bowel regimen or enemas
   yesterday.  Dobhoff pulled.
   --Continue with bowel regimen today and watch stool output
   --If stool output doesn
t increase will consult surgery tomorrow to
   inquire about focal RUQ ileus
   #. Altered mental status - Likely multifactorial including toxic
   metabolic injury to the brain from toxin ingestion or sepsis vs effect
   of hypothyroidism.  However, no improvement in mental status with
   treatment of infection.  Have stopped acyclovir as HSV PCR from CSF is
   negative.
   --Holding benzos and allowing time for them to clear. Had positive UA
   for benzos yesterday, will need to reassess with repeat UA tomorrow
   --Enterovirus is negative, West [**Doctor First Name **] serology are pending
   --Wait until urine benzos are negative, then consider neuro consult to
   assess AMS
   #.  Cardiomyopathy and Pericardial Effusion
EF improving to 40% and
   stable effusion without tamponade physiology.  Likely from
   hypothyroidism.  Also in differential is viral myocarditis vs shock
   heart. Off Dobutamine and norepinephrine.  Cardiac function appears to
   be improving.  Will need a heart failure regimen as her BP can tolerate
   it, including Bblocker and ACEi.  Lasix gtt held.
   --F/u viral studies pending
   --[**Location (un) 2636**] negative, B1 within normal limits
   --Continue Lasix diuresis today with gentle gtt and IV bolus
   #. Hypothyroidism with elevated TPO
On thyroid replacement.  Per
   endocrine, not likely Hashimoto
s encephalopathy.
   --Increase levothyroxin to 50 IV qday
   --repeat TFTs in [**4-3**] wks
   #. Pyelonephritis
L obstructive stone, perc nephrostomy in place,
   cultures positive for pan sensitive Klebsiella.  On Cipro day 6 ([**9-11**]
   of fluroquinolones).
   --Continue for total 14d course of Cipro
   --Will need reimaging if the future per ID recs to assess for abscess
   -- Will eventually need stone and drain removed.
   -- Cipro as above to cover Klebsiella from urine.
    #.  Fevers
Last temp 100 was [**2115-9-27**] at 4pm, afebrile since. WBC
   stable and trending down. Currently on Cipro to cover Klebsiella in
   urine. UCX and BCx regathered [**2115-9-25**] are all still negative.
   --F/u Cx
   --F/u cultures and outstanding serologies
   --Continue with Ciprofloxacin. Today is day 6 of cipro and day [**9-11**] of
   fluroquinolones.
   --Continue to follow CXRs.
   #. Anemia
Patient
s Hct has been trending down slowly, likely due to
   marrow suppression in setting of overwhelming infection vs.
   hypothyroidism. Currently Hct is holding steady in 24-25 range.
   Hemolysis labs were negative.
   --Continue to trend Hct daily.
   --Transfuse for Hct<21.
   #. Respiratory failure
Not tolerating weaning for long yesterday.
   --Continue weaning as tolerated, decrease PEEP
   --Lasix gtt is now off
   --CT chest with improvement in multifocal PNA
   #. Acute Renal Failure-- Cr stable and making good urine. Nephrostomy
   tube not draining pus.
   --Continue to trend Cr which now appears stable and improving.
   #. Thrombocytopenia--Appears to be improving slowly, is up to 258 today
   and increasing
   --Continue to trend in setting of restarting heparin.
   #. DM2--Lantus 40U and 4U starting at 120 and going up by 2U q 40,
   watch BS
   #. FEN:
   - replete lytes and follow [**Hospital1 7**]
   - hold TF
   #. PPX
   - Pneumoboots
   - bowel regimen
   - Famotidine
   - No subQ heparin as she was thrombopenic
   # Code: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2115-9-29**] 06:30 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-10-01 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Percutaneous nephrostomy tube replaced by IR.  They tried to replace
   over guide wire, but failed.
   --Arterial line placed and fell out
   --Not fully sedated with Presodex while awaiting MRI head, so he was
   put back onto Versed/Fentanyl in preparation, did not tolerate wean
   back to Presodex only, so versed started
   --Low-grade temp last night with new leukocytosis: pan-cultured.
   Remains on cipro for klebsiella bacteremia.
   --[**Doctor First Name **] to see?
   --Required short doses of pressors, now off
   --Not tolerating PSV this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-10-1**] 12:36 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2115-9-30**] 07:03 AM
   Famotidine (Pepcid) - [**2115-9-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2115-10-1**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-10-1**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 59 (53 - 94) bpm
   BP: 89/47(61) {81/47(59) - 178/80(119)} mmHg
   RR: 18 (0 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 100.2 kg (admission): 105 kg
    CVP: 15 (10 - 18)mmHg
   Total In:
                                                                  2,642 mL
                                                                    773 mL
   PO:
   TF:
   IVF:
                                                                  1,373 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  3,770 mL
                                                                    285 mL
   Urine:
                                                                  3,200 mL
                                                                    285 mL
   NG:
                                                                    370 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,128 mL
                                                                    488 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 370 (370 - 547) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 144
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.49/38/69/26/5
   Ve: 7.5 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   304 K/uL
   7.7 g/dL
   88 mg/dL
   2.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   43 mg/dL
   107 mEq/L
   144 mEq/L
   22.9 %
   11.4 K/uL
        [image002.jpg]
                            [**2115-9-27**]  04:54 AM
                            [**2115-9-27**]  03:33 PM
                            [**2115-9-28**]  03:57 AM
                             [**2115-9-29**]  01:48 AM
                             [**2115-9-29**]  05:26 AM
                             [**2115-9-29**]  05:40 PM
                             [**2115-9-30**]  04:08 AM
                             [**2115-9-30**]  04:54 PM
                             [**2115-10-1**]  04:05 AM
                             [**2115-10-1**]  04:18 AM
   WBC
   12.7
   12.1
   17.1
   11.4
   Hct
   25.2
   24.2
   27.0
   22.9
   Plt
   [**Telephone/Fax (3) 11186**]04
   Cr
   2.8
   2.7
   2.3
   2.2
   2.2
   2.2
   2.0
   TCO2
   28
   31
   30
   Glucose
   71
   68
   73
   84
   114
   140
   88
   88
   Other labs: PT / PTT / INR:12.8/26.7/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16, Alk Phos / T Bili:148/0.5,
   Amylase / Lipase:155/218, Differential-Neuts:82.6 %, Band:2.0 %,
   Lymph:13.5 %, Mono:2.1 %, Eos:1.3 %, Fibrinogen:730 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:368 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: CSF negative for HSV, West [**Doctor First Name **], Eastern
   Equine
   Imaging: MRI
   Microbiology: Blood and Urine pending
   C diff negative
   Assessment and Plan
   59yoF admitted with AMS, sepsis from obstructed renal stone s/p perc
   nephrostomy, cardiomyopathy likely from hypothyroidism as well as
   respiratory failure likely from acute lung injury.  Now with improving
   cardiac and renal function, but persistently altered mental status and
   new focal ileus.
   #. Altered mental status
 Mental status improving, now able to follow
   commands, but very aggitated when not sedated.  Yesterday ok with
   Presodex only, but requried fentanyl/midazolam for MRI, now unable to
   toleate only Presodex so giving some midazolam.  Avoid propofol as with
   pancreatitis, and fentanyl given ileus.  Lkely cause of AMS
   multifactorial including prolonged effect of sedating medications,
   toxic metabolic injury to the brain from toxin ingestion or sepsis vs
   effect of hypothyroidism.  Though she had some improvement with
   treatment of her infection and now wakes up to move spontaneously and
   ask for help, we suspect some remaining underlying process.  MRI head
   pending.
   --Neurology consult for their input.
   -- f/u MRI head w/o contrast
   --Enterovirus is negative, West [**Doctor First Name **] serology are pending
   --Start Haldol for agitation after EKG for QT interval evaluation
   #. Pancreatitis/ileus
Pancreatitis is most likely secondary to the
   Propofol, as the CT abdomen [**9-27**] showed no signs of cholelithiasis.
   The ileus has improved this morning with active bowel sounds, 1 bowel
   movement but improved distention.
   --Continue with bowel regimen today and watch stool output
   --If stool output doesn
t increase will consult surgery tomorrow to
   inquire about focal RUQ ileus
   --Consider GoLytely
   #.  Fevers/leukocytosis
Low-grade temp and white count decreased this
   morning. Currently only on Cipro to cover Klebsiella in urine. UCX and
   BCx regathered [**2115-9-25**] are all still negative, recultured yesterday.
   --Repeat blood, urine and sputum cultures for source of new
   leukocytosis.
   --F/u cultures and outstanding serologies
   --Continue with Ciprofloxacin. Today is day 8 of cipro and day [**11-11**] of
   fluroquinolones.
   --Continue to follow CXRs.
   #. Pyelonephritis
Pulled out perc nephrostomy tube yesterday, replaced
   by IR. Cultures positive for pan sensitive Klebsiella.  On Cipro day 8
   ([**11-11**] of fluroquinolones).
   -- Continue for total 14d course of Cipro
   -- Will need reimaging if the future per ID recs to assess for abscess
   --Monitor urine output from nephrostomy tube
   -- Will eventually need stone and drain removed.
   #.  Cardiomyopathy and Pericardial Effusion
EF improved to 40% and
   stable effusion without tamponade physiology.  Likely from
   hypothyroidism and septic shock.  Required pressors for sedation.  All
   viral cultures negative to date.
   #. Hypothyroidism with elevated TPO
On thyroid replacement.  Per
   endocrine, not likely Hashimoto
s encephalopathy.
   --Continue levothyroxin to 50 IV qday
   --repeat TFTs in [**3-3**] wks
   #. Anemia
Patient
s Hct decreased by 4 today without any obvious source
   of beeding, however, similar to previous baseline.  Underlying anemia
   likely due to marrow suppression in setting of overwhelming infection
   vs. hypothyroidism. Currently Hct is holding steady in 24-25 range.
   Hemolysis labs were negative.
   --Repeat Hct
   --active T&S
   --Continue to trend Hct daily.
   --Transfuse for Hct<21.
   #. Respiratory failure
Not tolerating weaning for long yesterday.
   --Continue weaning as tolerated, decrease PEEP
   --Lasix gtt is now off because of hypotension.
   --CT chest with improvement in multifocal PNA
   #. DM2
Off of lantus and on regular sliding scale every 6 hours to
   cover tube feeds.
   #. FEN:
   - Currently NPO and receiving TPN because of ileus.
   - Dobhoff in IR
   #. PPX
   - Pneumoboots and SC heparin.
   - bowel regimen
   - H2
   # Code: Full
   # Dispo: ICU pending improvement in mental and respiratory status.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2115-9-30**] 06:07 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Arterial Line - [**2115-9-30**] 09:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-10-02 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 EKG - At [**2115-10-1**] 11:10 AM
 ARTERIAL LINE - STOP [**2115-10-1**] 03:00 PM
   - Attempted to rewire A-line, unsuccessful, attempted another A-line
   able to get in artery and flow, but minimal, unable to get adequate
   [**Location (un) **] on monitor
   - Started Haldol for aggitation, QTc on EKG prolonged to 490s however
   need an IV antipsychotic, cannot use PO at this time
   - MRI head: negative
   - Fever -> recultured, CT abd tomorrow given fever and pancreatitis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-10-2**] 12:03 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2115-10-1**] 05:30 PM
   Famotidine (Pepcid) - [**2115-10-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-10-2**] 12:02 AM
   Haloperidol (Haldol) - [**2115-10-2**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-10-2**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.9
   HR: 65 (57 - 70) bpm
   BP: 106/47(61) {79/45(54) - 116/59(72)} mmHg
   RR: 19 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
             Total In:
                                                                  2,654 mL
                                                                    664 mL
   PO:
             TF:
   IVF:
                                                                  1,148 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                    550 mL
   Urine:
                                                                  1,115 mL
                                                                    550 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,339 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 568 (568 - 568) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///20/
   Ve: 10.6 L/min
   Physical Examination
   Gen: lying still shortly after receiving versed.
   Labs / Radiology
   315 K/uL
   7.5 g/dL
   117 mg/dL
   2.0 mg/dL
   20 mEq/L
   4.2 mEq/L
   52 mg/dL
   107 mEq/L
   140 mEq/L
   24.0 %
   12.8 K/uL
        [image002.jpg]
                            [**2115-9-28**]  03:57 AM
                             [**2115-9-29**]  01:48 AM
                             [**2115-9-29**]  05:26 AM
                             [**2115-9-29**]  05:40 PM
                             [**2115-9-30**]  04:08 AM
                             [**2115-9-30**]  04:54 PM
                             [**2115-10-1**]  04:05 AM
                             [**2115-10-1**]  04:18 AM
                             [**2115-10-1**]  04:24 PM
                             [**2115-10-2**]  03:45 AM
   WBC
   12.7
   12.1
   17.1
   11.4
   12.8
   Hct
   25.2
   24.2
   27.0
   22.9
   23.4
   24.0
   Plt
   [**Telephone/Fax (3) 11186**]04
   315
   Cr
   2.7
   2.3
   2.2
   2.2
   2.2
   2.0
   2.0
   TCO2
   31
   30
   Glucose
   68
   73
   84
   114
   140
   88
   88
   117
   Other labs: PT / PTT / INR:12.8/26.7/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16, Alk Phos / T Bili:148/0.5,
   Amylase / Lipase:155/218, Differential-Neuts:82.3 %, Band:2.0 %,
   Lymph:13.2 %, Mono:2.2 %, Eos:1.9 %, Fibrinogen:730 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:368 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: MRI head: IMPRESSION:
   1. No acute infarction and no evidence of other acute abnormalities in
   the brain.
   2. Bilateral mastoid air cell opacification, which could be related to
   the presence of the endotracheal tube. However, clinical correlation is
   recommended to exclude the possibility of superimposed infection.
   CXR: continued enlargement of the cardiac silhouette with evidence of
   elevated pulmonary venous pressure and bilateral pleural effusions.
   Compressive atelectasis is seen bilaterally.
   Microbiology: [**9-30**] and [**10-1**] blood cx: pending
   [**9-30**] urine cx: negative
   [**9-30**] c.diff: negative
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 CONSTIPATION (OBSTIPATION, FOS)
 DELIRIUM / CONFUSION
 INEFFECTIVE COPING
 PANCREATITIS, ACUTE
 LEUKOCYTOSIS
 CARDIOMYOPATHY, OTHER
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTHYROIDISM
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)
 PYELONEPHRITIS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   59yoF admitted with AMS, sepsis from obstructed renal stone s/p perc
   nephrostomy, cardiomyopathy likely from hypothyroidism as well as
   respiratory failure likely from acute lung injury.  Now with improving
   cardiac and renal function, but persistently altered mental status and
   new focal ileus.
   #. Altered mental status
 Mental status improving, now able to follow
   commands, but very aggitated when not sedated.  Agitated on precedex,
   so we are using fentanyl/versed.  When she is awake she is severely
   agitated with signs of possible delirium.  MRI showed no acute
   process.  Further work-up will have to wait for when her lung process,
   pancreatitis and fevers have improved.  West Nile virus negative
   --Appreciate neurology recs.  However, patient is not taking POs and
   can therefore not receive Seroquel.  We will hold off on a psychiatry
   consult until her other issues have improved.
   --Continue Haldol 1mg TID.
   #. Pancreatitis/ileus
Pancreatitis is most likely secondary to the
   Propofol, as the CT abdomen [**9-27**] showed no signs of cholelithiasis.
   She is having continued fevers and now has increasing pleural
   effusions.  We will get a abdominal CT to assess for the extent of the
   pancreatitis and possible fluid collection.
   --No contrast abdominal CT.
   --She will go today for post-pyloric dobhoff placement by IR.
   --Continue TPN until she is getting adequate tube feeds.
   #.  Fevers/leukocytosis
Continued fevers and slight rise in
   leukocytosis today.  We had been attributing this inflammation to
   pancreatitis, but there is still concern for infection, especially
   considering her worsening CXR.  Could there be infection of the
   pericardial fluid?  The pulmonary effusions are not large enough for a
   diagnostic tap. Currently only on Cipro to cover Klebsiella in urine.
   Blood cx, urine cx and c.diff negative to date.
   --Repeat blood, urine and sputum cultures for source of new
   leukocytosis.
   --F/u cultures and outstanding serologies
   --Continue with Ciprofloxacin. Today is day 9 of cipro and day 13/14 of
   fluroquinolones.
   --Continue to follow CXRs.
   #. Respiratory failure
Continues to require assist control and CXR
   looks worse today.  It is unclear what process is going on in her
   lungs, whether she continues to have a concurrent, multi-focal
   pneumonia that is incompletely covered with cipro, or if she is now
   developing ARDS.
   --Continue to follow daily CXR
   --Wean ventilatory settings as tolerated.
   #.  Cardiomyopathy and Pericardial Effusion
Unclear why the pericardial
   effusion is increasing on CXR.  We had been attributing the effusion to
   hypothyroidism, but if it is increasing while he is receiving
   levothyroxine, we may need to search for another etiology. Last echo
   showed that EF had improved to 40% and stable effusion without
   tamponade physiology.  All viral cultures negative to date.
   - Re-consult cardiology for possible drainage of pericardial fluid or
   repeat echo.  Will repeat echocardiography tomorrow.
   #. Hypothyroidism with elevated TPO
On thyroid replacement.  Per
   endocrine, not likely Hashimoto
s encephalopathy.
   --Continue levothyroxin to 50 IV qday
   --repeat TFTs in [**3-3**] wks
   #. Pyelonephritis
Pulled out perc nephrostomy tube and had it replaced.
   Cultures positive for pan sensitive Klebsiella.  On Cipro day 8 (13/14
   of fluroquinolones).  Still draining ~300ccs per day from the
   nephrostomy tube.
   -- Continue for total 14d course of Cipro
   -- Will need reimaging if the future per ID recs to assess for abscess
   -- Will eventually need stone and drain removed eventually.
   #. Anemia
Hematocrit is currently stable.  Most likely cause of anemia
   is marrow suppression in the setting of sepsis, compounded by frequent
   blood draws.
   --Continue to trend Hct daily.
   --Transfuse for Hct<21.
   #. DM2
Off of lantus, getting insulin with TPN and on regular sliding
   scale every 6 hours.
   #. FEN:
   - Currently NPO and receiving TPN because of ileus.  Will restart tube
   feeds once dobhoff is in place.
   - Dobhoff in IR
   #. PPX
   - Pneumoboots and SC heparin.
   - bowel regimen
   - H2 blocker for ulcer prophylaxis (famotidine)
   # Code: Full code
   # Dispo: ICU pending improvement in mental and respiratory status.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2115-10-1**] 01:40 PM 53.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: With husband and son
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2115-10-03 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Persistent fevers and altered mental status.
   24 Hour Events:
 EKG - At [**2115-10-2**] 09:10 AM
 SPUTUM CULTURE - At [**2115-10-2**] 12:21 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2115-10-2**] 02:45 PM
 FLUOROSCOPY - At [**2115-10-2**] 03:30 PM
   Dobhoff insertion
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2115-10-3**] 04:35 AM
   - IP eval bilateral pleural effusions but felt to be small and no good
   window to safely do thoraco
   - Self extubated, then intubated again by anesthesia. Then early [**10-3**]
   am, self extubated again and re-intubated again
   - CT abd/pelvis showing:
   1. No CT evidence of complications of pancreatitis. Specifically, no
   peripancreatic fluid collection or pseudocyst. Note that on this
   non-contrast study, vasculature cannot be assessed for patency
   2. Unchanged bibasilar pulmonary consolidations from [**2115-9-27**].
   Unchanged moderate pericardial effusion. Unchanged 6 mm distal left
   ureteral stone. Probable persistent colonic ileus in the right upper
   abdomen.
   - Post pyloric Dobhoff placed
   - Don't think we got around to asking Endo re: should pericard effusion
   resolve with thyroxine?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-10-2**] 12:07 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-10-2**] 08:15 AM
   Haloperidol (Haldol) - [**2115-10-2**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2115-10-2**] 04:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-10-3**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 71 (67 - 87) bpm
   BP: 104/51(64) {93/44(59) - 127/63(75)} mmHg
   RR: 9 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
             Total In:
                                                                  3,966 mL
                                                                    680 mL
   PO:
             TF:
             68 mL
   IVF:
                                                                    751 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  2,595 mL
                                                                    720 mL
   Urine:
                                                                  1,915 mL
                                                                    720 mL
   NG:
                                                                    680 mL
   Stool:
   Drains:
   Balance:
                                                                  1,371 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 9.7 L/min
   Physical Examination
   Gen:
   HEENT:
   CV:
   Resp:
   Abd:
   Ext:
   Labs / Radiology
   316 K/uL
   7.0 g/dL
   130 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   48 mg/dL
   111 mEq/L
   142 mEq/L
   21.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2115-9-29**]  01:48 AM
                             [**2115-9-29**]  05:26 AM
                             [**2115-9-29**]  05:40 PM
                             [**2115-9-30**]  04:08 AM
                             [**2115-9-30**]  04:54 PM
                             [**2115-10-1**]  04:05 AM
                             [**2115-10-1**]  04:18 AM
                             [**2115-10-1**]  04:24 PM
                             [**2115-10-2**]  03:45 AM
                             [**2115-10-3**]  03:18 AM
   WBC
   12.1
   17.1
   11.4
   12.8
   10.7
   Hct
   24.2
   27.0
   22.9
   23.4
   24.0
   21.4
   Plt
   258
   315
   304
   315
   316
   Cr
   2.3
   2.2
   2.2
   2.2
   2.0
   2.0
   1.8
   TCO2
   31
   30
   Glucose
   73
   84
   114
   140
   88
   88
   117
   130
   Other labs: PT / PTT / INR:12.8/26.7/1.1, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16, Alk Phos / T Bili:148/0.5,
   Amylase / Lipase:155/218, Differential-Neuts:79.3 %, Band:2.0 %,
   Lymph:14.6 %, Mono:4.1 %, Eos:1.8 %, Fibrinogen:730 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:368 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Imaging: [**10-2**] CXR: An endotracheal tube is seen with its tip 2.4 cm
   from the carina. A left internal jugular catheter is seen with its tip
   in unchanged location at the cavoatrial junction. The cardiac
   silhouette remains enlarged. There are decreased bilateral pleural
   effusions. Bibasilar opacities, likely atelectasis, are improved.
   Pulmonary edema is significantly decreased.
   [**10-3**] CXR: Stably improved from morning of [**10-2**].
   [**10-2**] Abd CT: 1. No CT evidence of complications of pancreatitis.
   Specifically, no peripancreatic fluid collection or pseudocyst. Note
   that on this non-contrast study, vasculature cannot be assessed for
   patency
   2. Unchanged bibasilar pulmonary consolidations from [**2115-9-27**].
   Unchanged moderate pericardial effusion. Unchanged 6 mm distal left
   ureteral stone. Probable persistent colonic ileus in the right upper
   abdomen.
   Microbiology: [**9-30**] and [**10-1**] blood cx pending
   [**10-2**] resp culture pending
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 CONSTIPATION (OBSTIPATION, FOS)
 DELIRIUM / CONFUSION
 INEFFECTIVE COPING
 PANCREATITIS, ACUTE
 LEUKOCYTOSIS
 CARDIOMYOPATHY, OTHER
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTHYROIDISM
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)
 PYELONEPHRITIS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   59yoF admitted with several months of cognitive slowing and acute AMS,
   sepsis from obstructed renal stone s/p perc nephrostomy, cardiomyopathy
   likely from hypothyroidism as well as respiratory failure likely from
   multi-focal pneumonia.  Unclear main underlying cause.  Now
   persistently altered mental status with extreme agitation, continued
   respiratory failure and new pancreatitis.
   #. Altered mental status
 Self-extubated twice yesterday.  We are
   using fentanyl/versed because she was persistently agitated on precedex
   and propofol caused pancreatitis.  It is hard to assess if the haldol
   has helped.  When she is awake she remains severely agitated with signs
   of possible delirium.  MRI showed no acute process.  She was in acute
   distress when extubated and has an impressive ongoing process in her
   lungs, so she needs to remain intubated for now, preventing us from
   weaning further.
   --Appreciate neurology recs.  Now that the patient has a dobhoff in
   place, we can consider changing him over to Seroquel [**Hospital1 7**] instead of
   Haldol with risperdal for acute agitation.
   #.  Fevers/leukocytosis
It remains unclear why the patient has
   low-grade fevers.  They may be caused by the pancreatitis, but her
   abdominal CT was not particularly impressive.  Could there be infection
   of the pericardial fluid?  Cardiology does not think that is a likely
   source and are not keen on a diagnostic pericardiocentesis.  She has
   evidence of pulmonary infection, though it is unclear how that ties in
   with her overall picture.  The pulmonary effusions are not large enough
   for a diagnostic tap.  She has completed a course of ciprofloxacin (14
   days of quinolones), and as we do not have another source of
   infections, we will stop antibiotics for now, and culture for fevers.
   --Repeat blood, urine and sputum cultures if she spikes a fever again.
   --If she continues to be febrile today, will consult ID in AM tomorrow.
   --F/u cultures and outstanding serologies
    --Continue to follow CXRs.
   #. Pancreatitis/ileus
Pancreatitis is most likely secondary to the
   Propofol.  There were no signs of severe pancreatitis or complications
   on CT scan.  Per radiology there is no clear radiologic evidence of
   pancreatitis.  The plan for now is supportive care.  It is difficult
   for us to assess whether the pancreatitis is improving or worsening.
   --Start tube feeds by post-pyloric dobhoff.
   #. Respiratory failure
Yesterday when extubated she maintained good O2
   sats, but was in tachypneic and in distress, mouthing that she could
   not breath.  Her CXR looks slightly improved today.  We will try a
   trial of pressure support, to assess whether she can be weaned further.
   --Continue to follow daily CXR
   --Wean ventilatory settings as tolerated.
   #.  Cardiomyopathy and Pericardial Effusion
Unclear why the pericardial
   effusion is increasing on CXR.  We had been attributing the effusion to
   hypothyroidism, but if it is increasing while he is receiving
   levothyroxine, we may need to search for another etiology. Last echo
   showed that EF had improved to 40% and stable effusion without
   tamponade physiology.  All viral cultures negative to date.
   - Re-consult cardiology for possible drainage of pericardial fluid or
   repeat echo.  Will repeat echocardiography tomorrow.
   #. Hypothyroidism with elevated TPO
On thyroid replacement.  Per
   endocrine, not likely Hashimoto
s encephalopathy.
   --Continue levothyroxin to 50 IV qday
   --repeat thyroid panel tomorrow, per endocrine recommendations.
   #. Pyelonephritis
Pulled out perc nephrostomy tube and had it replaced.
   Cultures positive for pan sensitive Klebsiella and has completed a
   course of cipro.  Still has adequate drainage (~500ccs per day) from
   the nephrostomy tube.
   -- d/c cipro today
   -- Will need reimaging in the future per ID recs to assess for abscess.
   -- Will eventually need stone and drain removed.
   #. Anemia
Hematocrit drop this morning, repeat draw is pending.  Has
   slowly been drifting down, which have attributed to marrow suppression
   in the setting of sepsis, compounded by frequent blood draws.
   --f/u PM crit.
   --Transfuse for Hct<21.
   #. DM2
Off of lantus, getting insulin with TPN and on regular sliding
   scale every 6 hours.
   #. FEN:
   - Will continue TPN until she is getting enough tube feeds to support
   her nutritionally.
   - replete lytes PRN
   #. PPX
   - Pneumoboots and SC heparin.
   - bowel regimen
 has mushroom tube in today to allow for bowel
   movements.
   - H2 blocker for ulcer prophylaxis (famotidine)
   # Code: Full code
   # Dispo: ICU pending improvement in mental and respiratory status.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2115-10-2**] 10:30 PM 53.[**Telephone/Fax (3) 3450**] mL/hour
   Nutren 2.0 (Full) - [**2115-10-3**] 12:30 AM 10 mL/hour
   Glycemic Control:  regular ISS.
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   20 Gauge - [**2115-10-2**] 09:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer: famotidine
   VAP: HOB elevated, mouth hygiene.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2115-10-04 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tolerated PSV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-10-3**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-10-3**] 08:12 PM
   Heparin Sodium (Prophylaxis) - [**2115-10-4**] 12:22 AM
   Lorazepam (Ativan) - [**2115-10-4**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-10-4**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.6
   HR: 72 (64 - 89) bpm
   BP: 116/60(73) {98/44(57) - 152/72(90)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
             Total In:
                                                                  2,394 mL
                                                                    985 mL
   PO:
             TF:
                                                                    240 mL
                                                                    147 mL
   IVF:
                                                                    635 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                  1,240 mL
   Urine:
                                                                  1,850 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    544 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 477 (422 - 842) mL
   PS : 14 cmH2O
   RR (Set): 18
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 148
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 99%
   ABG: ///23/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   320 K/uL
   6.8 g/dL
   160 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.5 mEq/L
   43 mg/dL
   114 mEq/L
   144 mEq/L
   21.0 %
   10.1 K/uL
        [image002.jpg]
                             [**2115-9-29**]  05:40 PM
                             [**2115-9-30**]  04:08 AM
                             [**2115-9-30**]  04:54 PM
                             [**2115-10-1**]  04:05 AM
                             [**2115-10-1**]  04:18 AM
                             [**2115-10-1**]  04:24 PM
                             [**2115-10-2**]  03:45 AM
                             [**2115-10-3**]  03:18 AM
                             [**2115-10-3**]  03:16 PM
                             [**2115-10-4**]  03:42 AM
   WBC
   17.1
   11.4
   12.8
   10.7
   10.1
   Hct
   27.0
   22.9
   23.4
   24.0
   21.4
   22.2
   21.0
   Plt
   [**Telephone/Fax (3) 11263**]16
   320
   Cr
   2.2
   2.2
   2.2
   2.0
   2.0
   1.8
   1.5
   TCO2
   30
   Glucose
   84
   114
   140
   88
   88
   117
   130
   160
   Other labs: PT / PTT / INR:12.1/24.9/1.0, CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16, Alk Phos / T Bili:148/0.5,
   Amylase / Lipase:155/218, Differential-Neuts:79.3 %, Band:2.0 %,
   Lymph:14.6 %, Mono:4.1 %, Eos:1.8 %, Fibrinogen:730 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:368 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Microbiology: Blood, urine, sputum negative to date.
   C. diff negative.
   Assessment and Plan
   59yoF admitted with several months of cognitive slowing and acute AMS,
   sepsis from obstructed renal stone s/p perc nephrostomy, cardiomyopathy
   likely from hypothyroidism as well as respiratory failure likely from
   multi-focal pneumonia.  Unclear main underlying cause.  Now
   persistently altered mental status with extreme agitation, continued
   respiratory failure and new pancreatitis.
   #. Altered mental status
 We are using fentanyl/versed because she was
   persistently agitated on precedex and propofol caused pancreatitis.
   Haldol switched to Seroquel yesterday.  When she is awake she remains
   severely agitated with signs of possible delirium.  MRI showed no acute
   process.
   --Wean sedation as tolerated.
   #.  Fevers/leukocytosis
It remains unclear why the patient has
   low-grade fevers.  They may be caused by the pancreatitis, but her
   abdominal CT without obvious source.    Cardiology does not think that
   is a likely source and are not keen on a diagnostic
   pericardiocentesis.  The pulmonary effusions are not large enough for a
   diagnostic tap.  She has completed a course of ciprofloxacin (14 days
   of quinolones) for pyelonephritis, and as we do not have another source
   of infections, we will stop antibiotics for now, and culture for
   fevers.
   - Consult ID
   - F/u cultures and outstanding serologies
   - f/u ECHO -> could effusion be loculated or infected?
   - ID consult for fever source
   #. Pancreatitis/ileus
Pancreatitis is most likely secondary to the
   Propofol.  There were no signs of severe pancreatitis or complications
   on CT scan.  Per radiology there is no clear radiologic evidence of
   pancreatitis.  The plan for now is supportive care.  It is difficult
   for us to assess whether the pancreatitis is improving or worsening.
   Ileus improving given increased BM.
   --Start tube feeds by post-pyloric dobhoff.
   #. Respiratory failure
Tolerated a trial of pressure support.   S/p
   acute lung injury vs multifocal PNA.  Now with persistant unexplained
   effusions.
   --Wean ventilatory settings as tolerated, if tolerates SBT ->
   Extubation.
   #. Anemia
Hct trending down without obvious source of bleeding.  Source
   likely marrow suppression in the setting of sepsis, compounded by
   frequent blood draws.  Platelets and coags stable, hemolysis unlikely
   and previous labs negative.  No iron studies in system.
   - transfuse 1 unit pRBC
   - guiac stools
   - iron studies, retic count
   - active type and screen
   - Transfuse for Hct<21.
   #.  Cardiomyopathy and Pericardial Effusion
Unclear why the pericardial
   effusion is increasing on CXR.  We had been attributing the effusion to
   hypothyroidism, but if it is increasing while he is receiving
   levothyroxine, we may need to search for another etiology. Last echo
   showed that EF had improved to 40% and stable effusion without
   tamponade physiology.  All viral cultures negative to date.
   - Re-consult cardiology for possible drainage of pericardial fluid or
   repeat echo.
   #. Hypothyroidism with elevated TPO
On thyroid replacement.  Per
   endocrine, not likely Hashimoto
s encephalopathy.
   --Repeat TFTs pending
   --Continue levothyroxin to 50 IV qday
   #. Pyelonephritis
Pulled out perc nephrostomy tube and had it replaced.
   Cultures positive for pan sensitive Klebsiella and has completed a
   course of cipro.  Still has adequate drainage (~500ccs per day) from
   the nephrostomy tube.
   -- d/c cipro today
   -- Will need reimaging in the future per ID recs to assess for abscess.
   -- Will eventually need stone and drain removed.
   #. DM2
Off of lantus, getting insulin with TPN and on regular sliding
   scale every 6 hours.
   #. FEN:
   - Stop TPN because she is getting enough tube feeds to support her
   nutritionally.
   - replete lytes PRN
   #. PPX
   - Pneumoboots and SC heparin.
   - bowel regimen
 has mushroom tube in today to allow for bowel
   movements.
   - H2 blocker for ulcer prophylaxis (famotidine)
   # Code: Full code
   # Dispo: ICU pending improvement in mental and respiratory status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2115-10-3**] 05:06 PM 66.[**Telephone/Fax (3) 553**] mL/hour
   Nutren 2.0 (Full) - [**2115-10-4**] 12:28 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-9-20**] 12:07 AM
   20 Gauge - [**2115-10-2**] 09:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2115-10-05 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2115-10-4**] 09:53 AM
 MULTI LUMEN - STOP [**2115-10-4**] 01:10 PM
   [**10-3**]
   -Hct drop early am, repeat Hct for 10a
   [**10-4**]
   - Extubated!
   - pulled out central line and dobhoff
   - Given 1 unit prbc, repeat hct 21 -> 27 --> 26.4 this am
   - iron studies
   - retic ct:
   - TFTs:
   - call psych tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2115-10-3**] 12:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2115-10-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-10-5**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 75 (70 - 112) bpm
   BP: 125/58(75) {97/35(53) - 138/110(116)} mmHg
   RR: 21 (11 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 105 kg
                  Total In:
                                                                  2,070 mL
                                                                    240 mL
   PO:
                  240 mL
   TF:
                                                                    181 mL
   IVF:
                                                                    248 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,400 mL
                                                                    945 mL
   Urine:
                                                                  3,400 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,330 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   363 K/uL
   9.0 g/dL
   107 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.6 mEq/L
   36 mg/dL
   114 mEq/L
   144 mEq/L
   26.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2115-9-30**]  04:54 PM
                             [**2115-10-1**]  04:05 AM
                             [**2115-10-1**]  04:18 AM
                             [**2115-10-1**]  04:24 PM
                             [**2115-10-2**]  03:45 AM
                             [**2115-10-3**]  03:18 AM
                             [**2115-10-3**]  03:16 PM
                             [**2115-10-4**]  03:42 AM
                             [**2115-10-4**]  03:33 PM
                             [**2115-10-5**]  04:45 AM
   WBC
   11.4
   12.8
   10.7
   10.1
   12.2
   Hct
   22.9
   23.4
   24.0
   21.4
   22.2
   21.0
   27.1
   26.4
   Plt
   [**Telephone/Fax (3) 11295**]20
   363
   Cr
   2.2
   2.0
   2.0
   1.8
   1.5
   1.4
   TCO2
   30
   Glucose
   140
   88
   88
   117
   130
   160
   107
   Other labs: PT / PTT / INR:12.1/24.9/1.0   (yesterday) , CK / CKMB /
   Troponin-T:83/3/0.04, ALT / AST:22/16, Alk Phos / T Bili:148/0.5
   (old) , Amylase / Lipase:155/218   (old) , Differential-Neuts:79.3 %,
   Band:2.0 %, Lymph:14.6 %, Mono:4.1 %, Eos:1.8 %, Fibrinogen:730 mg/dL,
   Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL, LDH:368 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: iron 9
   TIBC 235 (260-470)
   Ferritin 266 (13-150)
   Transferrin 181 (200-360)
   c/w ACD
   retic 4.1
   TSH 38 (.27-4.2)
   T4 2.6 low
   T3 40 low
   calculated T4 index 2.2 low
   fT4 0.31 low
   Imaging: CXR this am --> cardiomegaly and R effusion
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 CONSTIPATION (OBSTIPATION, FOS)
 DELIRIUM / CONFUSION
 INEFFECTIVE COPING
 PANCREATITIS, ACUTE
 LEUKOCYTOSIS
 CARDIOMYOPATHY, OTHER
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTHYROIDISM
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 URINARY TRACT INFECTION (UTI)
 PYELONEPHRITIS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   59yoF admitted with several months of cognitive slowing and acute AMS,
   sepsis from obstructed renal stone s/p perc nephrostomy, cardiomyopathy
   likely from hypothyroidism as well as respiratory failure likely from
   multi-focal pneumonia.  Unclear main underlying cause.  Now
   persistently altered mental status with extreme agitation, continued
   respiratory failure and new pancreatitis.
    #. Altered mental status
 Now off sedation after receiving Fentanyl,
   Versed, Precedex and Propofol (caused pancreatitis). Still on Seroquel.
   She is much more alert, aware this am, but not oriented to person,
   place, time, city, and can barely answer questions, but she is awake
   which is a significant improvement. She is likely delirious from a
   prolonged hospital course.
   --Will get Psych consult today
   --Minimize sedation
   --Frequent reorientation
   #.  Fevers/leukocytosis
WBC ranging between 10 and 12, still with low
   grade fevers of unknown etiology, perhaps from pancreatitis, but her
   abdominal CT without obvious source.    Cardiology does not think that
   she has a purulent pericarditis and are not keen on a diagnostic
   pericardiocentesis.  The pulmonary effusions are not large enough for a
   diagnostic tap.  She has completed a course of ciprofloxacin (14 days
   of quinolones) for pyelonephritis, and as we do not have another source
   of infections, we will stop antibiotics for now, and culture for
   fevers.
   - ID has been consulted, will need f/u
   - F/u cultures and outstanding serologies
   - Off ABx for now
   #. Pancreatitis/ileus
Pancreatitis is most likely secondary to the
   Propofol.  There were no signs of severe pancreatitis or complications
   on CT scan.  Per radiology there is no clear radiologic evidence of
   pancreatitis.  The plan for now is supportive care.  It is difficult
   for us to assess whether the pancreatitis is improving or worsening.
   Ileus improving given increased BM.
   --Advance PO diet now that Dobhoff is out
   #. Anemia
Studies consistent with iron deficiency from anemia of
   chronic disease, and has good retic count, was given 1U PRBC's
   yesterday. No obvious source of bleed.
   - Get f/u Hct this pm
   - guiac stools
   - active type and screen --> sending for one today
   - Transfuse for Hct<21.
   #.  Cardiomyopathy and Pericardial Effusion
Unclear why the pericardial
   effusion is increasing on CXR.  We had been attributing the effusion to
   hypothyroidism, but if it is increasing while he is receiving
   levothyroxine, we may need to search for another etiology. Last echo
   showed that EF had improved to 40% and stable effusion without
   tamponade physiology.  All viral cultures negative to date.
   --Cards does not want to tap the effusion.
   --Will need f/u echo to assess resolution in 4 wks
   #. Hypothyroidism with elevated TPO
On thyroid replacement.  Per
   endocrine, not likely Hashimoto
s encephalopathy.
   --Repeat TFT's still show hypothyroidism, will need to increase
   Levothyroxine
   --F/u with endocrine today about increasing thyroxine
   #. Pyelonephritis
Pulled out perc nephrostomy tube and had it replaced.
   Cultures positive for pan sensitive Klebsiella and has completed a
   course of cipro.  Still has adequate drainage (~500ccs per day) from
   the nephrostomy tube.
   -- Cipro has been d/c'd
   -- Will need reimaging in the future per ID recs to assess for abscess.
   -- Will eventually need stone and drain removed.
    #. DM2
Will need to have BS's monitored with hopefully increasing PO
   intake. Has been in the 100's yesterday.
   --Continue with SSI
   #. FEN:
   --Advanced diet and encourage good PO food and liquids
   - replete lytes PRN
   #. PPX
   - Pneumoboots and SC heparin.
   - H2 blocker for ulcer prophylaxis (famotidine)
   - Doc/senna
   # Code: Full code
   # Dispo: Can likely call out to floor today for further recuperation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-10-2**] 09:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: